2166-02-13 06:07:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   - PCI of the RCA
   - Intubated, overbreathing vent
   - Acidotic, improved overnight so weaning FiO2
   - Increasing hypotension initially
   - Started on dopamine at cath. Increased up to 15ug/kg/min for
   hypotension. Weaned somewhat with fluids + dobutamine so ultimately at
   dopamine 8ug/kg/min + dobutamine 5ug/kg/min
   - Given 4L fluids overnight
   - Low UOP around 30mL/hour up to 70mL/hour with boluses
   - Persistently hypothermic
   - A-line placed
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 8 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dobutamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-13**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.1
C (98.7
   HR: 104 (64 - 106) bpm
   BP: 87/47(61) {71/45(56) - 157/79(109)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 7 (7 - 12)mmHg
   Total In:
                                                                    779 mL
                                                                  3,427 mL
   PO:
   TF:
   IVF:
                                                                    779 mL
                                                                  3,427 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                    225 mL
   Urine:
                                                                    350 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    429 mL
                                                                  3,202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 24 cmH2O
   Plateau: 16 cmH2O
   SpO2: 95%
   ABG: 7.35/39/170/25/-3
   Ve: 13.5 L/min
   PaO2 / FiO2: 340
   Physical Examination
   GENERAL: Elderly man. Intubated.  Arousable. Wearing bair hugger.
   HEENT: Right eye constricts to light, surgical left pupil. MM dry.
   Intubated.
   NECK: IJ (from OSH) left side, bandage on right side, unable to assess
   JVP.
   CARDIAC: No murmurs, difficult to ascultate over mechanical BS.
   LUNGS: Cachectic.  Mechanical clear breath sounds.
   ABDOMEN: Soft, NTND. + BS
   EXTREMITIES: No edema. distal pulses present.  A-line in the L radial
   artery
   NEURO: Opens eyes, nods on commands. Withdraws to pain.
   Labs / Radiology
   366 K/uL
   10.1 g/dL
   123 mg/dL
   1.4 mg/dL
   25 mEq/L
   4.7 mEq/L
   41 mg/dL
   107 mEq/L
   139 mEq/L
   28.0 %
   11.3 K/uL
        [image002.jpg]
                             [**2166-2-12**]  07:43 PM
                             [**2166-2-12**]  08:21 PM
                             [**2166-2-12**]  11:26 PM
                             [**2166-2-13**]  01:02 AM
   WBC
   11.3
   Hct
   30.5
   28.0
   Plt
   366
   Cr
   1.4
   TropT
   0.23
   TCO2
   24
   22
   Glucose
   123
   Other labs: PT / PTT / INR:21.3/38.5/2.0, CK / CKMB /
   Troponin-T:/44/0.23, ALT / AST:42/53, Alk Phos / T Bili:139/,
   Differential-Neuts:94.7 %, Lymph:3.6 %, Mono:1.2 %, Eos:0.1 %, Lactic
   Acid:1.2 mmol/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization
   .
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS. Dopamine
   dependent post cath.
   -Hold BB for now until off pressors
   -Wean pressors as tolerated, favoring aggressive IVF for preload
   augmentation.
   -ASA, plavix, hold BB until HD stable
   -High dose statin
   -Lipid panel and HbA1C for risk stratification
   .
   # PUMP:  Responding to IV fluids suggesting RV dysfunction possibly
   related to ischemic territory, however, CVP is low.  EF unknown. No
   elevated filling pressures on right heart cath.
   -TTE today
   - Bolus IV fluid for low urine output < 30cc
   .
   # RHYTHM: NSR at present. Increasingly tachycardic on evening of
   admission.
   -monitor on tele
   -ECG in am
   .
   # Hypotension - Cardiogenic vs. septic, on dopamine and dobutamine.
   Pulsus 10 on exam. No evidence PTX on exam or CXR.  Concern for sepsis,
   since hypothermic to 95, cultures and imaging thus far negative.  [**Month (only) 11**]
   have some contribution from positive pressure ventilation as well.
   - Monitor culture results
   -IVF prn
   -CVP goal >15
   -Pressors (dopamine + dobutamine for inotropy prn) goal MAP >60
   -a-line
   -if persistently hypotensive may need PA catheter for improved
   monitoring, likely L SC approach.
   -repeat ABG, decrease PEEP if tolerated
   .
   # ARF - Unclear baseline, cr 1.1 at OSH on admission, 1.4 here.
   -mucomyst
   -bicarb
   -hydration
   -continue to monitor
   .
   # Respiratory failure - apparently intubated in setting of code at
   OSH.  ABG here shows a mixed respiratory and metabolic acidosis.
   -increase RR
   -Titrate down Fi02 as tolerated
   -f/u CXR
   .
   # Metabolic acidosis, non AG. Resolved with fluids
   .
   # Hypothermia - Temp 94.7 on admission. Monitor culture data for
   sepsis, WBC curve and temperature curve.
   .
   # Lung/liver mass - No known malignancy history.
   -Review OSH films with rads
   -discuss PMH with family/prior PCP (if any)
   .
   #Psychosocial - pt found down, both he and his household decribed as
   unkept.  Unclear if safe alone at home
   -SW c/s
   -PT when able.
   .
   FEN: NPO overnight, if no plan to extubate, initiate TF. Agressive
   IVF.  Lytes prn.
   ACCESS: LIJ in place, comes out in am (as was placed at OSH), needs new
   CVL if still requiring pressors. A-line.
   PROPHYLAXIS:  Hep SC, bowel regimen, PPI IV
   CODE: Presumed full
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   .
   Dr. [**Last Name (STitle) 3878**] [**Telephone/Fax (1) 3879**]
   (wants to be called if ok to enroll in steroid studies)
   ------ Protected Section ------
   ------ Protected Section Addendum Entered By:[**Name (NI) 3880**] [**Name8 (MD) 234**], MD
   on:[**2166-2-13**] 08:37 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Hypotensive overnight responsive to dopamine and increased volume.
   Dobutamine strated for inotropic support.
   CVP today 8-10 mmHg.
   Physical Examination
   As recorded.
   Medical Decision Making
   day 2 post large infero-posterior MI.  Hemodynamic status complex with
   probable evidence of RV infarction but low to normal right sided
   filling pressures despite large volume resuscitation.  Low SVR based on
   numbers formo cardiac cath possibly consistent [**Doctor Last Name 3897**] sepsis or SIRS
   related to large MI.  For now will continue moderate volume to keep CVP
   >8 and <15 and attempt to wean dopamine if SBP >100.
   Lung mass of uncertain cause - will follow.
   Plan to reduce sedation and extubate in next 24 hours.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Critical care due to hemodynamic instability, ventialtor.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-13**] 17:39 ------

2166-02-14 06:16:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - RIJ placed successfully. LIJ (from OSH) pulled without incident.
   - PPD placed on left forearm in evening
   - Pt switched to negative pressure isolation room during r/o TB. 1st
   Sputum sample collected
   - FiO2 weaned to 40%
   - Still on Dobutamine/Dopamine gtt
   - Given total of 4L in boluses yesterday, 500cc bolus x 1 overnight for
   low CVPs , MAP 50s
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Dobutamine - 3 mcg/Kg/min
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-2-13**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2166-2-13**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-14**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 74 (67 - 114) bpm
   BP: 99/46(65) {78/42(55) - 132/61(87)} mmHg
   RR: 17 (6 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (3 - 218)mmHg
   Total In:
                                                                  5,305 mL
                                                                    718 mL
   PO:
   TF:
   IVF:
                                                                  5,245 mL
                                                                    718 mL
   Blood products:
   Total out:
                                                                  1,462 mL
                                                                    380 mL
   Urine:
                                                                  1,232 mL
                                                                    370 mL
   NG:
                                                                    230 mL
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  3,843 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 17 cmH2O
   Plateau: 14 cmH2O
   Compliance: 61.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/40/108//0
   Ve: 11.9 L/min
   PaO2 / FiO2: 270
   Physical Examination
   GENERAL: Elderly man. Intubated.  Arousable. Wearing bair hugger.
   HEENT: Right eye constricts to light, surgical left pupil. MM dry.
   Intubated.
   NECK: left IJ site bandage c/d/i, RIJ in place without
   tenderness/erythema
   CARDIAC: No murmurs, difficult to ascultate over mechanical BS.
   LUNGS: Cachectic.  Mechanical clear breath sounds.
   ABDOMEN: Soft, NTND. + BS
   EXTREMITIES: No edema. distal pulses present. PPD placed on L forearm
   with minimal ecchymosis and no induration at present
   NEURO: Opens eyes, nods on commands. Withdraws to pain.
   Labs / Radiology
   264 K/uL
   9.0 g/dL
   125 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.3 mEq/L
   37 mg/dL
   109 mEq/L
   138 mEq/L
   27.1 %
   9.3 K/uL
        [image002.jpg]
                             [**2166-2-12**]  08:21 PM
                             [**2166-2-12**]  11:26 PM
                             [**2166-2-13**]  01:02 AM
                             [**2166-2-13**]  05:28 AM
                             [**2166-2-13**]  05:57 AM
                             [**2166-2-13**]  09:38 AM
                             [**2166-2-13**]  12:13 PM
                             [**2166-2-13**]  06:31 PM
                             [**2166-2-14**]  01:34 AM
                             [**2166-2-14**]  05:56 AM
   WBC
   9.3
   Hct
   28.0
   27.1
   Plt
   264
   Cr
   1.2
   TropT
   0.66
   TCO2
   24
   22
   23
   22
   23
   23
   23
   25
   Glucose
   125
   Other labs: PT / PTT / INR:14.5/27.2/1.3, CK / CKMB /
   Troponin-T:395/48/0.66, ALT / AST:34/54, Alk Phos / T Bili:112/0.7,
   Differential-Neuts:94.7 %, Lymph:3.6 %, Mono:1.2 %, Eos:0.1 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.3 g/dL, LDH:243 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization
   .
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   Dopamine/dobutamine dependent post cath.  Has mild inferior hypokinesis
   on TTE.
   - Pt. should not need ionotropic support, therefore will wean
   dobutamine and titrate up dopamine prn
   -Hold BB for now until off pressors
   -Wean pressors as tolerated, favoring aggressive IVF for preload
   augmentation.
   -ASA, plavix, hold BB until HD stable
   -High dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24
   - HbA1C 5.7
   .
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, CVP is low and RV function appeared normal om TTE yesterday.
   No elevated filling pressures on right heart cath.
   -TTE shows EF 45-50%
   - Bolus IV fluid for low urine output < 30cc
   .
   # RHYTHM: NSR at present. Increasingly tachycardic on evening of
   admission.  Now improved
   -monitor on tele
   - Holding BB given hypotension
   .
   # Hypotension - Cardiogenic vs. septic vs. hypovolemic, on dopamine and
   dobutamine.  Now less likely cardiogenic given preserved systolic
   function on TTE.  Appears to be more distributive now.  Pulsus 10 on
   exam. No evidence PTX on exam or CXR.  Concern for sepsis, since was
   hypothermic to 95 on admission, cultures thus far negative.  Does have
   cavitary lesion in R lung apex and lesion in liver, ? abscess or other
   infectious process.  Sedation and positive pressure ventilation may
   also be contributing.
   - Monitor culture results
   - IVF boluses for CVP goal >15
   - transfuse 2 units pRBCs
   - Cont. pressors, wean dobutamine and titrate up dopamine as needed for
   goal MAP >60
   - a-line
   - if persistently hypotensive may need PA catheter for improved
   monitoring, likely L SC approach.
   .
   # ARF - Unclear baseline, cr 1.1 at OSH on admission, 1.4 here.  Cr
   imporved to 1.2 today after hydration.  Likely ARF in setting of
   hypovolemia given improving with IVF.
   - continue to monitor
   - avoid nephrotoxins
   .
   # Respiratory failure - apparently intubated in setting of code at
   OSH.  No known h/o lung disease.  ABG here shows a mixed respiratory
   and metabolic acidosis.
   - wean sedation
   - Trial PS today
   - Currently not protecting airway given [**Month (only) 202**]. gag, will follow with
   weaning sedation
   - If MS improves will attempt extubation today vs tomorrow pending
   decision regarding possible lung biopsy
   .
   # Metabolic acidosis, non AG. Resolved with fluids
   .
   # Hypothermia - Temp 94.7 on admission. Monitor culture data for
   sepsis, WBC curve and temperature curve.
   .
   # Lung/liver mass
 Has RUL cavitary lesion on CT as well as lesion in
   liver.  Concerning for TB vs. malignancy, no known TB risk factors.
   - consult IP for possible transbronchial biopsy
   - ruling out for TB, [**1-11**] sputums sent
   - ppd placed on [**2-13**] (L forearm)
   - negative pressure room
   - OSH films loaded into PACS
   - discuss further PMH with family today when they arrive
   .
   #Psychosocial - pt found down, both he and his household decribed as
   unkept.  Unclear if safe alone at home
   -SW c/s
   -PT when able.
   .
   FEN: NPO currently, nutrition consult for TFs.  IVF boluses prn as
   above.  Lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**],  A-line.
   PROPHYLAXIS:  Hep SC, bowel regimen, PPI IV
   CODE: Presumed full
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-2-12**] 07:35 PM
   Arterial Line - [**2166-2-13**] 12:00 AM
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   As recorded
   Physical Examination
   As recorded
   Medical Decision Making
   Goals for today:
   1. Improve hypovolemic status and assess impact on hemodynamics. CVP
   low and HCT decreased to 24.7. Will get 2 units PRBCs and IV fluids. DC
   Dobutamine and hope ot wean off dopamine.
   2. Lighten sedation and move towards extubation unless pulmonary plans
   bronchoscopy
   3. Begin plan for diagnosis of cavitating lung mass. Pulmonary consult.
   Note concerrns given need for dual antiplatelet therapy for 30 days
   minimum.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Hemodynamic instability and ventilator management.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-14**] 12:27 ------

2166-02-15 06:25:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: RCA infarct
   24 Hour Events:
   - attempted to wean sedation yesterday , patient opened eyes to voice,
   name but cannot move arms or legs, placed on CPAP and then back on AC
   in the afternoon
   - uptitrating dopamine as needed BP have been excellent
   - urine cultures negative, blood cultures still pending, negative AFB
   so far
   - blood pressure very labile all day, d/c dobutamine and titrated up
   dopamine intiially but blood pressure would go 200 systolic on and 70s
   off
   - switched to norepinephrine currently on 0.3, has required less
   pressor support with volume repletion
   - patient got 3 units of pRBCs after not bumping with 2 units, in
   addition, patient got 1 Liter of fluid and CVP appears to have
   responded with CVP 9, currently 6
   - desat to 91 to went up on FiO2 to 50% (? as to volume overload)
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Fentanyl - 12.5 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-2-14**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2166-2-14**] 09:00 PM
   Fentanyl - [**2166-2-14**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-15**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36
C (96.8
   HR: 53 (52 - 96) bpm
   BP: 154/77(104) {66/38(50) - 235/77(123)} mmHg
   RR: 18 (7 - 31) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
    CVP: 7 (-2 - 11)mmHg
   Total In:
                                                                  3,072 mL
                                                                  1,503 mL
   PO:
   TF:
   IVF:
                                                                  2,350 mL
                                                                  1,090 mL
   Blood products:
                                                                    562 mL
                                                                    293 mL
   Total out:
                                                                  1,059 mL
                                                                    195 mL
   Urine:
                                                                  1,049 mL
                                                                    195 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                  2,013 mL
                                                                  1,310 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 550 (379 - 550) mL
   PS : 12 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 74
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 94%
   ABG: 7.41/34/110/22/-1
   Ve: 12.7 L/min
   PaO2 / FiO2: 220
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), no MRG
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric) Coarse, poor air movement,
   no obvious crackles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Warm, no LE edema, plethoric UEs with some pitting
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   275 K/uL
   8.3 g/dL
   100 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.6 mEq/L
   26 mg/dL
   112 mEq/L
   141 mEq/L
   27.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2166-2-13**]  09:38 AM
                             [**2166-2-13**]  12:13 PM
                             [**2166-2-13**]  06:31 PM
                             [**2166-2-14**]  01:34 AM
                             [**2166-2-14**]  05:49 AM
                             [**2166-2-14**]  05:56 AM
                             [**2166-2-14**]  11:01 AM
                             [**2166-2-14**]  06:00 PM
                             [**2166-2-15**]  12:18 AM
                             [**2166-2-15**]  12:34 AM
   WBC
   9.6
   Hct
   24.9
   27.2
   Plt
   275
   Cr
   0.9
   0.8
   TCO2
   22
   23
   23
   23
   25
   25
   22
   22
   Glucose
   116
   100
   Other labs: PT / PTT / INR:15.3/36.6/1.4, CK / CKMB /
   Troponin-T:592/32/0.66, ALT / AST:33/61, Alk Phos / T Bili:107/0.7,
   Differential-Neuts:94.7 %, Lymph:3.7 %, Mono:1.2 %, Eos:0.4 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.1 g/dL, LDH:258 IU/L, Ca++:8.0 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization
   .
   # Hypotension - Cardiogenic vs. septic vs. hypovolemic, currently on
   neosynephrine.  Now less likely cardiogenic given preserved systolic
   function on TTE.  Differential includes acute adrenal
   insufficiency.Appears to be more distributive now.  Pulsus 10 on exam.
   No evidence PTX on exam or CXR.  Concern for sepsis, since was
   hypothermic to 95 on admission, cultures thus far negative.  Does have
   cavitary lesion in R lung apex and lesion in liver, ? abscess or other
   infectious process.  Sedation and positive pressure ventilation may
   also be contributing.
   - Monitor culture results
   - cont IVF boluses, now s/p 3 units of pRBCs today
   - wean pressors today as tolerated
   - check free cortisol this AM, if low consider [**Last Name (un) **] stim to rule out
   adrenal insufficiency
   .
   # Respiratory failure - intubated in setting of code at OSH.  No known
   h/o lung disease.  ABG here shows a mixed respiratory and metabolic
   acidosis.  Patient currently on FiO2 of 50% with assist control.
   Patient is not hypoventilated based on his ABG.
   - wean sedation this morning
   - attempt for SBP and possible extubation trial
   .
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   Dopamine/dobutamine dependent post cath.  Has mild inferior hypokinesis
   on TTE.
   -Hold BB for now until off pressors
   -Wean pressors as tolerated, favoring aggressive IVF for preload
   augmentation.
   -ASA, plavix
   -continue high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24
   - HbA1C 5.7
   .
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, CVP is low and RV function appeared normal om TTE yesterday.
   No elevated filling pressures on right heart cath. TTE shows EF 45-50%
   - Bolus IV fluid for low urine output < 30cc
   .
   # RHYTHM: NSR at present. Increasingly tachycardic on evening of
   admission.  Now improved
   -monitor on tele
   - Holding BB given hypotension
   .
   .
   # ARF - Unclear baseline, cr 1.1 at OSH on admission, 1.4 here.  Cr
   imporved to 1.1 today after hydration.  Likely ARF in setting of
   hypovolemia given improving with IVF.
   - continue to monitor
   - avoid nephrotoxins
   .
   # Metabolic acidosis, non AG. Resolved with fluids
   .
   # Hypothermia - Temp 94.7 on admission. Monitor culture data for
   sepsis, WBC curve and temperature curve.
   .
   # Lung/liver mass
 Has RUL cavitary lesion on CT as well as lesion in
   liver.  Concerning for TB vs. malignancy, no known TB risk factors.
   Pulmonary not planning to bronch during this admission
   - ruling out for TB, [**2-11**] sputums sent
   - ppd placed on [**2-13**] (L forearm) appears
   - negative pressure room
   - OSH films loaded into PACS
   - discuss further PMH with family today when they arrive
   .
   #Psychosocial - pt found down, both he and his household decribed as
   unkept.  Unclear if safe alone at home
   -SW c/s
   -PT when able.
   .
   FEN: NPO currently, nutrition consult for TFs.  IVF boluses prn as
   above.  Lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**],  A-line.
   PROPHYLAXIS:  Hep SC, bowel regimen, PPI IV
   CODE: Presumed full
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-2-12**] 07:35 PM
   Arterial Line - [**2166-2-13**] 12:00 AM
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Events overnight reviewed. Continued hypotension with evidenc eof low
   volume and poor Hct response to 2 unit transfusion.  Episoded of
   hypoxia with tenacious secretions noted but otherwise did well on CPAP
   trial.
   Physical Examination
   As recorded. More awake and gross motor exam satisfactory and non
   localizing.
   CVP 5-9.
   Medical Decision Making
   Hypovolemia likely due to unrecognized bleeding source and probably
   secondary to cardiac cath. For now treatment is supportive with
   additional volume resuscitation and RBC transfusion to HCT >28.  Should
   be able to extubate and increase mobility, which ill assist in
   hypoxia/secretion control.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Ventilated, hemodynamci instability
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-15**] 11:33 ------

2166-02-16 06:30:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   - Extubated with stable sats and tachypnea to 25-30 on shovel mask
   - Noted post-extubation to have flaccid left arm and not moving b/l
   LE.
   - CODE BLUE for bradycardia and hypotension. Chest compressions were
   delivered. Responded to atropine and norepi + IVF.
   - BPs labile to >200 on norepi so switched to dopamine with stable SBPs
   100-130
   - Tolerated dopamine well with stable SBPs but progressively more
   bradycardic througout the night
   - Pulled out Aline
   - ABGs with stable acidosis of 7.27 with progressively increasing
   hypercarbia of 45->47->52
   - Blood and uring Cx sent
   - UA neg for signs of infection
   - CXR consistent with aspiration
   - Sputum while intubated positive for O/P flora
   - Started vanco+pip/tazo
   - Started BiPAP for poor air movement and decreasing respiratory effort
   - Noted to have mild bleeding from ? hemorrhoids
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2166-2-15**] 10:45 PM
   Piperacillin - [**2166-2-15**] 11:29 PM
   Infusions:
   Dopamine - 7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Flowsheet Data as of  [**2166-2-16**] 06:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 35.9
C (96.7
   HR: 46 (0 - 151) bpm
   BP: 102/36(51) {85/35(49) - 203/135(145)} mmHg
   RR: 27 (13 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
    CVP: 2 (-5 - 132)mmHg
   Total In:
                                                                  3,206 mL
                                                                    633 mL
   PO:
   TF:
   IVF:
                                                                  2,656 mL
                                                                    633 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    940 mL
                                                                    720 mL
   Urine:
                                                                    940 mL
                                                                    720 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,266 mL
                                                                    -87 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PPS
   Vt (Spontaneous): 500 (390 - 571) mL
   PS : 10 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 120
   RSBI Deferred: Hemodynamic Instability
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.27/52/76.[**Numeric Identifier 433**]/24/-3
   Ve: 13.6 L/min
   PaO2 / FiO2: 152
   Physical Examination
   GENERAL: Elderly man. On BiPAP.  Arousable. Cachetic and generally in
   distress.
   HEENT: PERRLA. EOMI.
   NECK: L IJ. JVP 8cm, but difficult to assess [**2-10**] respiratory effort
   CARDIAC: RR, NL S1S2 no MRG
   LUNGS: Decreased BS on the R compared to the L. Overall coarse breath
   sounds with poor air movement.
   ABDOMEN: Soft, NTND. + BS
   EXTREMITIES: No edema. distal pulses present.  Clubbing.
   NEURO: Opens eyes, nods on commands. LEs are flaccid. LUE also flaccid.
   Some purposeful movements of the RUE
   Labs / Radiology
   270 K/uL
   11.1 g/dL
   112 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   23 mg/dL
   113 mEq/L
   142 mEq/L
   32.0 %
   11.5 K/uL
        [image002.jpg]
                                     pH
                                    7.27
                                    pCO2
                                     52
                                     pO2
                                     76
                                    HCO3
                                     25
                                   BaseXS
                                     -3
   4:43AM
                                     pH
                                    7.27
                                    pCO2
                                     47
                                     pO2
                                     75
                                    HCO3
                                     23
                                   BaseXS
                                     -5
   11:53PM
                                     pH
                                    7.27
                                    pCO2
                                     45
                                     pO2
                                     85
                                    HCO3
                                     22
                                   BaseXS
                                     -5
   8:30PM with CODE BLUE
                             [**2166-2-15**]  12:00 PM
                             [**2166-2-15**]  12:14 PM
                             [**2166-2-15**]  05:00 PM
                             [**2166-2-15**]  05:07 PM
                             [**2166-2-15**]  08:23 PM
                             [**2166-2-15**]  08:30 PM
                             [**2166-2-15**]  09:26 PM
                             [**2166-2-15**]  11:53 PM
                             [**2166-2-16**]  04:14 AM
                             [**2166-2-16**]  04:43 AM
   WBC
   13.8
   11.5
   Hct
   33.9
   32.0
   Plt
   310
   270
   Cr
   0.8
   0.8
   TropT
   0.42
   TCO2
   21
   21
   22
   23
   23
   25
   Glucose
   105
   114
   88
   88
   112
   Other labs: PT / PTT / INR:15.9/41.1/1.4, CK / CKMB /
   Troponin-T:245/9/0.42, ALT / AST:31/41, Alk Phos / T Bili:130/0.9,
   Differential-Neuts:92.3 %, Lymph:5.7 %, Mono:1.7 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:339 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization
   .
   # Hypotension
 Pt s/p inferior STEMI, initially hypotensive requiring
   dopamine/dobutamine. Switched to levo.  Turned off yesterday am, pt
   extubated, later on became bradycardic and hypotensive. Was on levophed
   with labile BPs, now back on dopamine, and IVF for hypotensive.  Ddx
   for this new episode:  Less likely primarily cardiac as no evidence of
   ECG changes, increase in CEs, possibly in setting of vagal episode or
   aspiration.  Also on ddx is primary neurologic process, acute stroke,
   metastatic disease or anoxic brain injury.
   - Dopamine prn and IVF boluses for BP, needs new a-line today.
   - F/u cx, covering broadly with vanc/zosyn for asp pna, needs ID
   approval today, planned 8 day course.  Started evening of [**2-15**].
   - CT followed by MRI to eval above neuro issues, ? neuro c/s.
   .
   # Respiratory failure - intubated in setting of code at OSH.  No known
   h/o lung disease but CXR consistent with COPD and has clubbing one
   exam.  The etiology of his respiratory failure is unclear. [**Name2 (NI) **] is
   hypoventilating [**2-10**] his COPD and rib Fx from compressions. Also clearly
   tiring from respiratory effort. There does not seems to be a diffusion
   defect as he has oxygenated well throughout this hospitalization. Also
   a component of aspiration PNA is complicating and even etiologic to his
   presentation.
   - Extubated successfully on [**2166-2-15**].
   - ABG here shows a mixed respiratory and metabolic acidosis which had
   initially resolved but has returned now that he is extubated.
   - CXR consistent with aspiration PNA with ongoing RUL cavitary lesion
   which pre-dates his respiratory distress
   - Sputum Cx during intubation growing oropharyngeal flora consistent
   with aspiration PNA
   - Given above concerns for aspiration, started empirically on
   vanc+pip/tazo on the evening of [**2166-2-15**]
   - Patient currently on FiO2 of 50% with PEEP 5 and pressure support of
   10. He seems to be tolerating this well
   .
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   Dopamine/dobutamine dependent post cath.  Has mild inferior hypokinesis
   on TTE.
   -Hold BB for now until off pressors
   -Wean pressors as tolerated, favoring aggressive IVF for preload
   augmentation.
   -ASA, plavix, needs NGT vs PO trial today.
   -continue high dose statin on PO access available
   -Lipid panel shows LDL below goal (39), HDL only 24. This metabolic
   picture is consistent with poor nutrition and generally poor metabolic
   state
   - HbA1C 5.7
   .
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, CVP is low and RV function appeared normal om TTE yesterday.
   No elevated filling pressures on right heart cath. TTE shows EF 45-50%
   - Bolus IV fluid as above for BP.
   .
   # RHYTHM: had episode of bradycardia last night resulting in code
   blue.  Does not appear to be a primary cardiac process.
   - Holding BB given hypotension, bradycardia.
   -telemetry
   -w/u of respiratory issues as above.
   .
   # Lung mass
 Has RUL cavitary lesion on CT as well as lesion in
   liver.  Concerning for TB vs. malignancy, no known TB risk factors.
   Pulmonary not planning to bronch during this admission.
   - ruling out for TB, [**3-11**] sputums sent
   - ppd placed on [**2-13**] (L forearm), read as negative
   - negative pressure room, until AFBs read.
   - IP [**Name (NI) 1850**], no role for bronch in the acute post MI setting.
   .
   # Altered Mental Status: Pt with ongoing poor orientation and not fully
   communicative. Improved post-extubation. Nevertheless, has ongoing
   flaccid limbs and depressed reflexes. Could be consistent with ICU
   neuropathy v anoxic brain injury or CVA.
   -CT/MRI as above.
   .
   # Acidosis, mixed respiratory and metabolic. Metabolic is
   hyperchloremic non-AG acidosis. No ARF or diarrhea, likely in setting
   of aggressive IVF with NS.
   -Substitute LR for IVF.
   .
   #Psychosocial - pt found down, both he and his household decribed as
   unkept.  Unclear if safe alone at home
   -SW c/s
   -PT when able.
   -family discussion
   .
   FEN: PO trial today, SLP ordered. NGT will need to be placed If fails.
   IVF prn, replete lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**],
   PROPHYLAXIS:  Hep SC, bowel regimen, PPI IV
   CODE: Presumed full
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2166-2-13**] 12:00 AM
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Complex events overnight reviewed in detail with CCU team.
   Change in neuro exam post extubation
   Bradycardia arrest with evidence of high grade AV block with narrow
   compex QRS
   Probable aspiration pneumonia
   Physical Examination
   L sided neglect and flaccid weakness. Also ? R leg weakness. Unable to
   cooperate with sensory exam; No facial weaness.
   Awake and appears alert. He has speech but difficult to hear due to
   weak voice;
   Diffuse lung rhonchi;
   No change in cardiac exam;
   Medical Decision Making
   No evidenc eof recurrent ischemia or heart failure.
   Cause of change in neurologic exam and duration unclear. Of note he had
   similar bradycardia events prior to evidence of inferior STEMI.
   Ischemia not likley primary cause now and late for reperfusion
   arrhythmia.
   Primary respiratory event most likely althoughs ABGs reasonable before
   and after event- > acute aspiration or plugging.
   Primary neurlogic event also a possibility.
   Today airway and respiratory status seem stable on BiPap. Will
   reintubate if any change.
   For head CT today.
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes of critical care time.
   Additional comments:
   >60 minutes face to face critical care overnight and today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-16**] 11:32 ------

2166-02-17 06:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Attempted to wean Dopamine but when turned off completely, HR dropped
   to 30s with BP stable in 130s/80s.  Now on Dopamine 5mcg/kg/min
   - Talked with family, who confirmed full code, no known history of
   prior stroke
   - Head CT to eval for neurological compromise was negative
   - On neuro exam, pt was able to move RUE, some LUE, little LE movement.
   - Was able to tolerate POs sufficiently to take PO Plavix
   - A-line was held off as pt fairly stable
   - Tolerated facemask 50%
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2166-2-16**] 08:00 PM
   Piperacillin - [**2166-2-17**] 06:09 AM
   Infusions:
   Dopamine - 4 mcg/Kg/min
   Other ICU medications:
   Insulin - Regular - [**2166-2-16**] 10:00 PM
   Heparin Sodium (Prophylaxis) - [**2166-2-17**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-17**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 34.3
C (93.7
   HR: 78 (37 - 78) bpm
   BP: 105/48(62) {101/31(46) - 181/140(146)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 3 (0 - 6)mmHg
   Total In:
                                                                  2,650 mL
                                                                    224 mL
   PO:
   TF:
   IVF:
                                                                  2,650 mL
                                                                    224 mL
   Blood products:
   Total out:
                                                                  1,390 mL
                                                                    225 mL
   Urine:
                                                                  1,390 mL
                                                                    225 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,260 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 662 (506 - 662) mL
   PS : 10 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 50%
   SpO2: 100%
   ABG: ///26/
   Ve: 20.6 L/min
   Physical Examination
   GENERAL: Elderly man. Wearing shovel mask. Awake and resting
   comfortably.  Responsive.
   HEENT: PERRLA. EOMI.
   NECK: L IJ. JVP 8cm, but difficult to assess [**2-10**] respiratory effort
   CARDIAC: RR, NL S1S2 no MRG
   LUNGS: Decreased BS on the R compared to the L. Overall coarse breath
   sounds with poor air movement.
   ABDOMEN: Soft, NTND. + BS
   EXTREMITIES: No edema. distal pulses present.  Clubbing.
   NEURO: Opens eyes, nods on commands. Cannot move Les on command,
   increased tone from prior.. LUE also weak, moves on command.. Some
   purposeful movements of the RUE
   Labs / Radiology
   261 K/uL
   11.4 g/dL
   119 mg/dL
   0.7 mg/dL
   26 mEq/L
   3.5 mEq/L
   19 mg/dL
   110 mEq/L
   142 mEq/L
   34.1 %
   9.3 K/uL
         [image002.jpg]
                             [**2166-2-15**]  12:14 PM
                             [**2166-2-15**]  05:00 PM
                             [**2166-2-15**]  05:07 PM
                             [**2166-2-15**]  08:23 PM
                             [**2166-2-15**]  08:30 PM
                             [**2166-2-15**]  09:26 PM
                             [**2166-2-15**]  11:53 PM
                             [**2166-2-16**]  04:14 AM
                             [**2166-2-16**]  04:43 AM
                             [**2166-2-17**]  04:17 AM
   WBC
   13.8
   11.5
   9.3
   Hct
   33.9
   32.0
   34.1
   Plt
   [**Telephone/Fax (3) 3983**]
   Cr
   0.8
   0.8
   0.7
   TropT
   0.42
   0.35
   TCO2
   21
   21
   22
   23
   23
   25
   Glucose
   114
   88
   88
   112
   119
   Other labs: PT / PTT / INR:15.9/41.1/1.4, CK / CKMB /
   Troponin-T:256/13/0.35, ALT / AST:31/41, Alk Phos / T Bili:130/0.9,
   Differential-Neuts:92.3 %, Lymph:5.7 %, Mono:1.7 %, Eos:0.2 %, Lactic
   Acid:0.9 mmol/L, Albumin:2.0 g/dL, LDH:339 IU/L, Ca++:8.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization
   # Hypotension
 Pt s/p inferior STEMI, initially hypotensive requiring
   dopamine/dobutamine. Had episode of hypotension/bradycardia [**2-15**] during
   which code was called, appeared to be in setting of either vagal
   episode or aspiration PNA.  Continues to have small pressor
   requirement.  Initially was fluid responsive.  Unclear if persistently
   hypotensive due to cardiogenic shock (unlikely given TTE) vs other
   potential etiologies.  ? if some central process is playing a role.
   - Dopamine prn and IVF boluses for BP.
   - F/u cx, covering broadly with vanc/zosyn for asp pna, planned 8 day
   course.  Started evening of [**2-15**].
   - CT without acute process.  Consider MRI
   -[**Last Name (un) 1398**] stim test, check TSH.
   # Respiratory failure - intubated in setting of code at OSH.  No known
   h/o lung disease but CXR consistent with COPD and has clubbing one
   exam.  The etiology of his respiratory failure is unclear. [**Name2 (NI) **] is
   hypoventilating [**2-10**] his COPD and rib Fx from compressions. Also clearly
   tiring from respiratory effort. There does not seems to be a diffusion
   defect as he has oxygenated well throughout this hospitalization. Also
   a component of aspiration PNA is complicating and even etiologic to his
   presentation.
   - Extubated successfully on [**2166-2-15**], tolerating facemask.  Wean down 02
   as tolerated.
   - Repeat CXR this am
   - CXR  from [**2-15**] consistent with aspiration PNA with ongoing RUL
   cavitary lesion which pre-dates his respiratory distress.  Given above
   concerns for aspiration, started empirically on vanc+pip/tazo on the
   evening of [**2166-2-15**]
   - f/u final AFB, remove respiratory precautions once finalized as
   negative.
   -pulmonary toilet, reposition/sit up in bed today.
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   Dopamine/dobutamine dependent post cath.  Has mild inferior hypokinesis
   on TTE.  Still with persistent pressor requirement.  Pt is I/O even
   since midnight.  Was initially fluid responsive.  Seems to be less so
   now, although not very positive last 24 hours.
   -Hold BB for now until off pressors
   -Bolus prn for BP and UOP.
   -Wean pressors as tolerated
   -ASA, plavix
   -high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24. This metabolic
   picture is consistent with poor nutrition and generally poor metabolic
   state
   - HbA1C 5.7
   # Altered Mental Status/neuro deficits: Pt with ongoing poor
   orientation and not fully communicative. Improved post-extubation.
   Nevertheless, has ongoing flaccid limbs and depressed reflexes.
   Distribution with b/l LE and LUE?RUE is not anatomic in terms of an
   identifiable neurologic lesion.  More likely a more diffuse process,
   possibly ICU myopathy
   -aggressive nutritional support
   -Check B12, folate, RPR, TSH (B12, folate TSH normal at OSH
   -thiamine repletion
   -hold off on MRI given difficulty with travel, lying flat.  Consider
   this with neuro c/s if doesn
t improve
   -mobilize as soon as possible.
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, CVP is low and RV function appeared normal om TTE yesterday.
   No elevated filling pressures on right heart cath. TTE shows EF 45-50%
   - Bolus IV fluid as above for BP.
   -no BB, ACEI while on pressors
   # RHYTHM: had episode of bradycardia [**2-15**] resulting in code blue.  Did
   not appear to be a primary cardiac process.  ECG this morning with
   various p-wave morphologies, potentially in setting of respiratory
   compromise.
   - Holding BB given hypotension, bradycardia.
   -telemetry
   -w/u of respiratory issues as above.
   # Lung mass
 Has RUL cavitary lesion on CT as well as lesion in
   liver.  Concerning for TB vs. malignancy, no known TB risk factors.
   Pulmonary not planning to bronch during this admission.
   - ruling out for TB, [**3-11**] sputums sent, 3 prelim negative.
   - ppd placed on [**2-13**] (L forearm), read as negative
   - negative pressure room, until AFBs read
   - IP [**Name (NI) 1850**], no role for bronch in the acute post MI setting.
   FEN: Able to take pills, speech and swallow eval today, otherwise will
   need NGT. Maintenance IVF with boluses for volume. Replete lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**],
   PROPHYLAXIS:  Hep SC, bowel regimen, PPI IV, switch to PO when
   tolerating.
   CODE: Presumed full
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Prophylaxis:
   DVT: Hep SC
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Respiratory status relatively stable based on ABGs and work of
   breathing.
   Heart rate occasionally slow with drop in systolic pressure responded
   to dopamine.
   Possible vasodilatory hypotension with or without unexplained increased
   vagal tone.
   Head CT negative for major bleed or mass effect.
   Continue current course and close CCU observation for hemodynamic and
   neuro signs.
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name **] or health care proxy.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Hemodynamics and neurologic status
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-17**] 10:32 ------

2166-02-19 05:53:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   [**2166-2-18**]
   - Pt again had vagal like reaction with drop in pulse and blood
   pressure. Responded to increase in dopamine and did not require
   compressions
   - Sputum grew Acinteobacter baumanii sensitive to pip/tazo. Placed on
   contact precautions
   - EP consulted regarding repeated vagal events. Holding off on pacer
   for now
   - Neuro consulted re going flacidity. Felt that DD includes watershed
   infarcts in the spine or brain. Recommended MRI of the brain and spine.
   Pt does not seem stable for MRI at this time, but will re-address this
   actively.
   - Pt failed [**Last Name (un) **] stim test. Started on hydrocortisone 50mg IV q6hrs per
   CORTICUS study. Will continue this for 5 days and then taper starting
   on the evening of [**2166-2-22**]
   - Developed UGIB on the evening of [**2166-2-18**]. HCT stable. Started on PPI
   drip. Second IV placed. GI following. Ongoing guaiac positive OG
   contents but less bloody and fewer clots. Following closely for now.
   Trasnsfused 1U pRBC. Type and screen up to date. 2U crossmatched.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2166-2-17**] 06:09 AM
   Vancomycin - [**2166-2-18**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-2-18**] 10:00 PM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Pantoprazole (Protonix)
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Atropine - [**2166-2-18**] 12:30 PM
   Pantoprazole (Protonix) - [**2166-2-18**] 05:00 PM
   Heparin Sodium (Prophylaxis) - [**2166-2-18**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-19**] 05:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 83 (41 - 93) bpm
   BP: 118/45(68) {73/34(47) - 168/76(110)} mmHg
   RR: 23 (11 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 9 (-6 - 208)mmHg
   Total In:
                                                                  3,687 mL
                                                                    249 mL
   PO:
   TF:
                                                                     70 mL
                                                                     29 mL
   IVF:
                                                                  3,124 mL
                                                                    193 mL
   Blood products:
                                                                    323 mL
                                                                     27 mL
   Total out:
                                                                  1,975 mL
                                                                    265 mL
   Urine:
                                                                  1,835 mL
                                                                    260 mL
   NG:
                                                                    140 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                  1,712 mL
                                                                    -15 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (500 - 550) mL
   Vt (Spontaneous): 571 (366 - 571) mL
   PS : 14 cmH2O
   RR (Set): 12
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.40/42/85.[**Numeric Identifier 433**]/21/0
   Ve: 11.2 L/min
   PaO2 / FiO2: 170
   Physical Examination
   General Appearance: intubated sedated
   Eyes / Conjunctiva: pupils assymetric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Breath Sounds rhonchorous. Air movement
   bilaterally.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Interval increase in edema.
   Skin:  Not assessed
   Neurologic: Sedated. Flaccid tone. Reflexes 0.
   Labs / Radiology
   137 K/uL
   11.4 g/dL
   107 mg/dL
   0.8 mg/dL
   21 mEq/L
   3.7 mEq/L
   16 mg/dL
   110 mEq/L
   142 mEq/L
   33.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2166-2-17**]  06:23 PM
                             [**2166-2-17**]  07:54 PM
                             [**2166-2-17**]  10:14 PM
                             [**2166-2-18**]  04:51 AM
                             [**2166-2-18**]  05:01 AM
                             [**2166-2-18**]  10:11 AM
                             [**2166-2-18**]  04:53 PM
                             [**2166-2-18**]  06:15 PM
                             [**2166-2-19**]  01:18 AM
                             [**2166-2-19**]  04:13 AM
   WBC
   9.1
   7.5
   8.6
   Hct
   29.5
   31.2
   33.5
   Plt
   192
   151
   137
   Cr
   0.8
   0.8
   TCO2
   28
   26
   25
   27
   24
   24
   27
   Glucose
   77
   107
   Other labs: PT / PTT / INR:15.1/43.0/1.3, CK / CKMB /
   Troponin-T:256/13/0.35, ALT / AST:30/38, Alk Phos / T Bili:152/1.2,
   Differential-Neuts:92.3 %, Lymph:5.7 %, Mono:1.7 %, Eos:0.2 %, Lactic
   Acid:1.9 mmol/L, Albumin:2.0 g/dL, LDH:220 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization
   # Hypotension
 Pt s/p inferior STEMI, initially hypotensive requiring
   dopamine/Dobutamine current on dopamine only. Had episode of
   hypotension/bradycardia [**2-15**] during which code was called, repeat
   bradycardia with code blue on [**2166-2-17**] appeared to be in setting of
   either vagal episode or aspiration PNA.  Episode of [**2166-2-17**] was in the
   setting of dropping NG tube down. Initially thought to be fluid
   responsive.  Unclear if persistently hypotensive due to cardiogenic
   shock (unlikely given TTE) vs other potential etiologies.  Differential
   diagnosis includes adrenal insufficiency, cardiogenic, hypovolemic, or
   acute bleed. Patient with crit drop this morning in the setting of
   arterial line and repeat intubation, no obvious source of bleeding.  ?
   if some central process is playing a role.  In terms of evaluation for
   adrenal insufficiency initial random cortisol 21 which is normal,
   however in ICU patient on pressors and intubated would expect value to
   be higher so may represent relative adrenal insufficiency. TSH 0.87
   which is WNL.
   - Dopamine for pressure support and IVF boluses for MAP<60.
   - F/u cx, covering broadly with vanc/zosyn for asp pna, planned 8 day
   course.  Started evening of [**2-15**]
 covers both blood culture as well as
   - CT without acute process.  Consider MRI and neurology consult
   - Goal CVP 8-10
   - [**Last Name (un) 1398**] stim test this morning with no appropriate response. Started on
   steroids per CORTICUS trial. Will receive hydrocortisone 50mg IVq6hrs
   for 5 days from [**2166-2-18**] to [**2166-2-22**] and then taper dose.
   - [**Month (only) 11**] be complicated by ongoing moderate upper GI bleeding (see below)
   # Respiratory failure
 initially intubated in setting of code at OSH.
   No known h/o lung disease but CXR consistent with COPD and has clubbing
   on exam.  Likely aspiration during code on [**2-15**], on antibiotics.
   Patient was increasingly tachypneic after code yesterday and acidotic,
   requiring reintubation last evening.  The etiology of his respiratory
   failure is likely multifactorial. He is hypoventilating secondary his
   COPD and rib Fx from compressions.  Also a component of aspiration PNA.
   There does not seem to be a diffusion defect as he has oxygenated well
   throughout this hospitalization.
   - Wean vent as tolerated
   - Repeat CXR this am
   - CXR  from [**2-15**] consistent with aspiration PNA with ongoing RUL
   cavitary lesion which pre-dates his respiratory distress.  Given above
   concerns for aspiration, started empirically on vanc+pip/tazo on the
   evening of [**2166-2-15**]
   - f/u AFB neg. x3, now off precautions.
   - Sputum Cx grew Acinetobacter baumannii sensitive to pip/tazo. Will
   continue with above ABx. Placed on contact precautions
   # UPPER GI BLEEDING: On the afternoon of [**2166-2-18**] Pt was found to have
   frank blood in his gastric aspirate for residuals after tube feeds. He
   was Hemodynamically unchanged at the time and HCT was stable.
   - Received additional boldus of Protonix 40mg IV and started on a
   Protonix drip
   - GI aware of Pt and following closely. Will hold off on EGD for now
   given labile BP and pulse and since Pt is stable
   - Received additional unit of pRBC
   - Continue to have IV access x2
   - Type and screen up today
   - Continue ASA and Plavix as needed to maintain stents
   - Consider restarting tube feeds today
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   Dopamine/dobutamine dependent post cath.  Has mild inferior hypokinesis
   on TTE.  Still with persistent pressor requirement.  Pt is I/O even
   since midnight.  Was initially fluid responsive.  Seems to be less so
   now, although not very positive last 24 hours.
   -Hold BB for now until off pressors
   -Bolus prn for BP and UOP.
   -Wean pressors as tolerated
   -ASA, plavix
   -high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24. This metabolic
   picture is consistent with poor nutrition and generally poor metabolic
   state
   - HbA1C 5.7
   # Altered Mental Status/neuro deficits: After extubation Pt had ongoing
   poor orientation and not fully communicative.  Toxic-metabolic workup
   thus far negative.  Also had ongoing flaccid limbs and depressed
   reflexes. Distribution with b/l LE and LUE?RUE is not anatomic in terms
   of an identifiable neurologic lesion.  More likely a more diffuse
   process, possibly ICU myopathy.  Now with recurrent autonomic
   instability with multiple vagal episodes leading to code blue.
   -aggressive nutritional support
   -Check B12, folate, RPR, TSH (B12, folate TSH normal at OSH), wnl here
   -thiamine repletion
   -Consider MRI to further evaluate
   - Neuro consult recommended brain and spinal MRI. Will consider doing
   this today if Pt can tolerate the procedure and staffing is available
   to monitor the Pt at MRI
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, CVP is low and RV function appeared normal om TTE yesterday.
   No elevated filling pressures on right heart cath. TTE shows EF 45-50%
   - Bolus IV fluid as above for BP.
   -no BB, ACEI while on pressors
   # RHYTHM: had episode of bradycardia [**2-15**] resulting in code blue.  Did
   not appear to be a primary cardiac process.  ECG with various p-wave
   morphologies, potentially in setting of respiratory compromise.
   - Holding BB given hypotension, bradycardia.
   -telemetry
   -w/u of respiratory issues as above.
   # Lung mass
 Has RUL cavitary lesion on CT as well as lesion in
   liver.  Concerning for TB vs. malignancy, no known TB risk factors.
   Pulmonary not planning to bronch during this admission.
   - ruling out for TB, [**3-11**] sputums negative.
   - ppd placed on [**2-13**] (L forearm), read as negative
   - IP [**Name (NI) 1850**], no role for bronch in the acute post MI setting.
   FEN:patient had OG tube placed yesterday, confirm positioning with
   chest x-ray then initiate tube feeds. Replete lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**], arterial line placed [**2-17**]
   PROPHYLAXIS:  Hep SC, bowel regimen, PPI IV, switch to PO when
   tolerating.
   CODE: Full, discussed with family
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
 [**Name2 (NI) 4025**]INTESTINAL
   BLEED, UPPER (MELENA, GI BLEED, GIB)
 ANEMIA, OTHER
 ALTERATION IN NUTRITION
 IMPAIRED PHYSICAL MOBILITY
 PULMONARY NODULE (LUNG NODULE)
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 HYPOTENSION (NOT SHOCK)
 HYPOTHERMIA
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2166-2-18**] 10:00 AM 5 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Arterial Line - [**2166-2-17**] 10:00 PM
   20 Gauge - [**2166-2-18**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2166-02-20 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Stable most of the day. Weaned to Dopa 1.3mcg/kg/hr. RN had tried to
   wean pt off completely, but once again became bradycardic to 30s.
   - Still has not gone for MRI
   - Plt has been downtrending significantly since admission ([**2-12**]
   366->99), HIT a possibility. All heparin products d/c'ed, HIT-Ab sent.
   Held off on Argatroban given high bleeding risk.
   - Switched to high-dose PPI [**Hospital1 **]
   - Fungal markers sent
   - Crit stable (32.8 am->31.8 pm)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-2-18**] 10:00 PM
   Vancomycin - [**2166-2-19**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2166-2-19**] 12:00 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Dopamine - 1.3 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-2-19**] 08:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2166-2-20**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 77 (52 - 88) bpm
   BP: 123/41(61) {91/32(49) - 168/69(305)} mmHg
   RR: 23 (11 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 4 (-4 - 6)mmHg
   Total In:
                                                                  1,570 mL
                                                                    197 mL
   PO:
   TF:
                                                                    100 mL
   IVF:
                                                                  1,383 mL
                                                                    197 mL
   Blood products:
                                                                     27 mL
   Total out:
                                                                  1,218 mL
                                                                    315 mL
   Urine:
                                                                  1,208 mL
                                                                    315 mL
   NG:
                                                                     10 mL
   Stool:
   Drains:
   Balance:
                                                                    352 mL
                                                                   -118 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 689 (546 - 734) mL
   PS : 14 cmH2O
   RR (Set): 8
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 80
   PIP: 20 cmH2O
   SpO2: 99%
   ABG: 7.49/33/62/26/2
   Ve: 8.5 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: intubated sedated
   Eyes / Conjunctiva: pupils asymmetric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Breath Sounds rhonchorous. Air movement
   bilaterally.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Interval increase in edema, 2+ pitting edema of lower
   extremities bilaterally.
   Skin:  no lesions noted
   Neurologic: Sedated. Flaccid tone. Reflexes 0.
   Labs / Radiology
   99 K/uL
   11.2 g/dL
   89 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   24 mg/dL
   114 mEq/L
   146 mEq/L
   29.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2166-2-18**]  04:53 PM
                             [**2166-2-18**]  06:15 PM
                             [**2166-2-19**]  01:18 AM
                             [**2166-2-19**]  04:13 AM
                             [**2166-2-19**]  10:00 AM
                             [**2166-2-19**]  10:10 AM
                             [**2166-2-19**]  05:00 PM
                             [**2166-2-19**]  05:10 PM
                             [**2166-2-20**]  04:15 AM
                             [**2166-2-20**]  04:39 AM
   WBC
   7.5
   8.6
   9.0
   Hct
   31.2
   33.5
   32.8
   31.8
   29.6
   Plt
   151
   137
   99
   Cr
   0.8
   0.8
   TCO2
   24
   27
   26
   27
   26
   Glucose
   107
   89
   Other labs: PT / PTT / INR:14.8/50.7/1.3, CK / CKMB /
   Troponin-T:256/13/0.35, ALT / AST:25/36, Alk Phos / T Bili:162/0.6,
   Differential-Neuts:96.2 %, Band:0.0 %, Lymph:2.6 %, Mono:1.1 %, Eos:0.1
   %, D-dimer:[**2070**] ng/mL, Fibrinogen:777 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:216 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization
   # Hypotension
 Likely Multifactorial.  Initially thought to be
   cardiogenic [**2-10**] inferior MI, responded to dopamine/norepinephrine.
   Also possible hypovolemia, since volume responsive at times.  There was
   concern for bleeding given falling hematocrit and transiently improved
   pressor requirement after transfusions.  Lastly, having several
   prolonged vagal episodes with vagal stimuli with pauses resulting in
   hypotension, so may have some autonomic dysfunction.  Also, Cosyntropin
   stimulation test was
   abnormal suggesting component of adrenal insufficiency.
   - Appreciate Neurology and EP input regarding profound vagal episodes
   - Dopamine for pressure support and IVF boluses for MAP<60,wean as
   tolerated
   - d/c Vancomycin yesterday as staph epidermis in blood culture only
   from one bottle and likely contaminant
   - changed to Unasyn [**2166-2-19**] (from Zosyn)  for pansensitive
   acinetobacter in sputum, day 1=[**2166-2-15**], would complete 8 day course
   - Goal CVP 8-10, fluid bolus to maintain
   - Continue empiric corticosteroids x 5 days
   - Treat GI bleeding as needed, crit has been stable
   # Respiratory failure
 Multifactorial due to impaired gas exchange
   from aspiration/lung mass, impaired chest wall mechanics given recent
   chest compressions, and possibly underlying obstructive lung disease.
   Fluid overload less likely given absence of significant edema on
   x-rays.  Patient becoming more alkalotic on vent, primarily
   respiratory, will decrease PS to 12 today.
   - Treat pneumonia, plan for 8-day course of Unasyn for acinetobacter.
   - Wean vent as tolerated with daily trials of breathing
   - f/u AFB neg. x3, now off precautions.
   # UPPER GI BLEEDING: Gastroccult positive OG tube contents, perhaps
   related to insertion trauma however may be independent bleed. Currently
   stable.  Evaluated by GI who deferred EGD given Hct stable and no
   further bleeding noted.
   - Monitor serial hematocrits, changed PPi to [**Hospital1 **], transfuse for Hct <
   25 or drop  more than 5 points
   - Continue to have IV access x2
   - Keep type & screen up to date
   - Continue ASA and Plavix as needed to maintain stents
   - restarted tube feeds will increase free water flushes
   - pm Hct today
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   -Hold BB for now until off pressors
   -Bolus prn for BP and UOP.
   -Wean pressors as tolerated
   -ASA, plavix
   -high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24.
   - HbA1C 5.7
   # Thrombocytopenia:  Plt since admission have dropped from 366 -> [**Age over 90 **]
   yesterday which is greater than 50% drop.  Time course is consistent
   with possible HIT.  Heparin products d/c
d yesterday and HIT Ab sent.
   DIC labs negative.  PPI can cause thrombocytopenia, however favor
   continuing given recent GIB.  Held off starting argatroban given risk
   of bleeding and no evidence of thrombotic events at this time.
   - Holding heparin products
   - f/u HIT Ab
   - Start argatroban if develops thrombosis or HIT positive
   # Altered Mental Status/neuro deficits: After extubation Pt had ongoing
   poor orientation, not fully communicative, flaccid limbs, depressed
   reflexes.  Distribution with b/l LE and LUE>RUE without clear
   suggestions of anatomic lesion.  Toxic-metabolic workup thus far
   negative.  Also with recurrent autonomic instability with multiple
   vagal episodes leading to code blue.
   - Appreciate neurology input, Plan for MRI brain and spine today
   - B12, folate, RPR, TSH, wnl here
   -thiamine repletion, aggressive nutritional support
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, CVP is low and RV function appeared normal on TTE and filling
   pressures not elevated on right heart cath. TTE shows EF 45-50%
   - Bolus IV fluid as above for BP.
   -no BB, ACEI while on pressors
   # RHYTHM: Repeated vagal episodes resulting in loss of pulse.
   Appreciate EP and Neurology input regarding same.
   - Holding BB given hypotension, bradycardia.
   -telemetry
   # Lung mass
 TB rule-out.  Per pulmonary, warrants outpatient
   evaluation after stabilization of acute issues.
   FEN: OG tube, restart tube feeding today. Inc. free water flushes for
   hypernatremia.  Replete lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**], arterial line placed [**2-17**]
   PROPHYLAXIS:  pneumoboots, bowel regimen, PPI IV
   CODE: Full, discussed with family
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Arterial Line - [**2166-2-17**] 10:00 PM
   20 Gauge - [**2166-2-18**] 11:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   As recorded - continued episodes of bradycardia and hypotension - ?
   vagal of uncertain trigger
   Physical Examination
   Arousable; No change in neuro exam;
   Medical Decision Making
   For MRI today
   No change in dopamine, ventilator settings etc pending MRI;
   LP if MR negative
   Cardiac status remains stable
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-20**] 18:38 ------

2166-02-21 07:10:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint: rca infarct
   24 Hour Events:
 - patient with likely HIT, consulted hematology regarding management
   - awaiting MRI scan
   - put in for 1 L bolus as well as 1 Liter of banana bag in the AM
   - heme/onc initial note: avoid additional platelets unless critical
   bleed, transfuse blood as needed for acs, d/c PPi if able
   - MRI wet read - Preliminary Report !! WET READ !!  Critical central
   canal stenosis (< 5 mm) at C5/6, secondary to disc/osteophyte
   degenerative changes, with associated cord signal changes. Without
   prior comparisons, difficult to determine whether this represents acute
   cord edema versus myelomalacia from chronic compression. Limited
   assessment for neoplasm without IV contrast.
   - patient dropping sats on the vent
   - weaned dopamine successfully
- lyme serologies - LYME SEROLOGY (Final [**2166-2-20**]): POSITIVE BY EIA. CONFIRMED A
S POSITIVE BY WESTERN BLOT.
- negative HIT antibody
- ASP and B glucan pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2166-2-18**] 10:00 PM
   Vancomycin - [**2166-2-19**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2166-2-21**] 06:10 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Insulin - Humalog - [**2166-2-21**] 06:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: as above
   Flowsheet Data as of  [**2166-2-21**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.5
   HR: 57 (42 - 75) bpm
   BP: 124/52(75) {93/40(60) - 188/84(121)} mmHg
   RR: 15 (9 - 35) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 8 (1 - 8)mmHg
   Total In:
                                                                  4,283 mL
                                                                    450 mL
   PO:
   TF:
                                                                    107 mL
   IVF:
                                                                  3,928 mL
                                                                    233 mL
   Blood products:
                                                                    295 mL
   Total out:
                                                                    970 mL
                                                                    220 mL
   Urine:
                                                                    970 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,313 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 317 (317 - 760) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: Sao2 < 90%
   PIP: 24 cmH2O
   SpO2: 94%
   ABG: 7.45/41/101/28/3
   Ve: 9 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   33 K/uL
   9.1 g/dL
   113 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   24 mg/dL
   113 mEq/L
   145 mEq/L
   26.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2166-2-19**]  10:10 AM
                             [**2166-2-19**]  05:00 PM
                             [**2166-2-19**]  05:10 PM
                             [**2166-2-20**]  04:15 AM
                             [**2166-2-20**]  04:39 AM
                             [**2166-2-20**]  02:42 PM
                             [**2166-2-20**]  04:58 PM
                             [**2166-2-20**]  11:50 PM
                             [**2166-2-21**]  05:29 AM
                             [**2166-2-21**]  05:54 AM
   WBC
   6.5
   7.3
   12.7
   6.3
   Hct
   31.8
   29.6
   27.9
   29.4
   26.6
   Plt
   41
   22
   51
   33
   Cr
   0.8
   0.8
   0.8
   TCO2
   26
   27
   26
   28
   29
   Glucose
   89
   121
   113
   Other labs: PT / PTT / INR:15.0/34.3/1.3, CK / CKMB /
   Troponin-T:256/13/0.35, ALT / AST:28/39, Alk Phos / T Bili:146/0.8,
   Differential-Neuts:90.7 %, Band:0.0 %, Lymph:5.5 %, Mono:3.3 %, Eos:0.3
   %, D-dimer:[**2070**] ng/mL, Fibrinogen:634 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:2.0 g/dL, LDH:222 IU/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization
   .
   # Hypotension
 Likely Multifactorial.  Initially thought to be
   cardiogenic [**2-10**] inferior MI, responded to dopamine/norepinephrine.
   Some due to blood loss due to thrombocytopenia.  Lastly, having several
   prolonged vagal episodes with vagal stimuli with pauses resulting in
   hypotension, so may have some autonomic dysfunction.  Also, Cosyntropin
   stimulation test was
   abnormal suggesting component of adrenal insufficiency.
   - Appreciate Neurology and EP input regarding profound vagal episodes
   - Dopamine for pressure support and IVF boluses for MAP<60,wean as
   tolerated
   - d/c Vancomycin yesterday as staph epidermis in blood culture only
   from one bottle and likely contaminant
   - changed to Unasyn [**2166-2-19**] (from Zosyn)  for pansensitive
   acinetobacter in sputum, day 1=[**2166-2-15**], would complete 8 day course
   - Goal CVP 8-10, fluid bolus to maintain
   - Continue empiric corticosteroids x 5 days
   - Transfuse for hematocrit < 25
   .
   # Respiratory failure
 Multifactorial due to impaired gas exchange
   from aspiration/lung mass, impaired chest wall mechanics given recent
   chest compressions, possibly underlying obstructive lung disease, and
   now bloody secretions.  Fluid overload less likely given absence of
   significant edema on x-rays.
   - Appreciate pulmonary recommendations, will obtain CTA chest for PE
   - Treat pneumonia, plan for 8-day course of Unasyn for acinetobacter.
   - Wean vent as tolerated with daily trials of breathing
   - f/u AFB neg. x3, now off precautions.
   .
   # UPPER GI BLEEDING: Gastroccult positive OG tube contents, perhaps
   related to insertion trauma however may be independent bleed. Currently
   stable.  Evaluated by GI who deferred EGD given Hct stable and no
   further bleeding noted.
   - Monitor serial hematocrits, changed PPi to [**Hospital1 **], transfuse for Hct <
   25 or drop  more than 5 points
   - Continue to have IV access x2
   - Keep type & screen up to date
   - Continue ASA and Plavix as needed to maintain stents
   - restarted tube feeds will increase free water flushes
   - pm Hct today
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   -Hold BB in the setting of recent hypotension
   -Bolus prn for BP and UOP.
   -off all pressors
   -ASA, Plavix, high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24, HbA1C 5.7
   .
   # Thrombocytopenia:  Plt since admission have dropped from 366 -> [**Age over 90 **]
   yesterday which is greater than 50% drop.  Time course is consistent
   with possible HIT.  Heparin products d/c
d yesterday and HIT Ab sent.
   DIC labs negative.  PPI can cause thrombocytopenia, however favor
   continuing given recent GIB.  Held off starting argatroban given risk
   of bleeding and no evidence of thrombotic events at this time. HIT
   antibody negative.
   - Appreciate Hematology recommendations
   - Holding heparin products
   - Start argatroban if develops thrombosis
   - Transfuse platelets <10 or critical bleeding
   .
   # Altered Mental Status/neuro deficits: After extubation Pt had ongoing
   poor orientation, not fully communicative, flaccid limbs, depressed
   reflexes.  Distribution with b/l LE and LUE>RUE without clear
   suggestions of anatomic lesion.  Toxic-metabolic workup thus far
   negative.  Also with recurrent autonomic instability with multiple
   vagal episodes leading to code blue. MRI brain without obvious lesions,
   MRI c-spine with spinal stenosis.
   - f/u neurology recs
   - soft cervical collar
   - f/u final read of MRI, consider additional work-up as per neurology
   - B12, folate, RPR, TSH, wnl here
   .
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, CVP is low and RV function appeared normal on TTE and filling
   pressures not elevated on right heart cath. TTE shows EF 45-50%
   - Bolus IV fluid as above for BP and CVP goal [**8-18**]
   -no BB, ACEI in the setting of recent hypotension
   .
   # RHYTHM: Repeated vagal episodes resulting in loss of pulse.
   Appreciate EP and Neurology input regarding same.
   - Holding BB given hypotension, bradycardia.
   -telemetry monitoring
   .
   # Lung mass
 TB rule-out, fungal studies pending.  Appreciate
   pulmonary evaluation.
   .
   FEN: OG tube, tube feeds. free water flushes for hypernatremia.
   Replete lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**], arterial line placed [**2-17**]
   PROPHYLAXIS:  pneumoboots, bowel regimen, PPI IV
   CODE: Full, discussed with family
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Neurologic exam explained by critical cervical spine stenosis.
   Unlikely contribution to current picture but a risk for recovery
   prognosis and rehab.
   Thrombocytopenia a concern for HIT. Appreciate hematology input. Agree
   not to start DTI unless thrombotic complication.
   Monitor carefully for bleeding
   Total time spent on patient care: 30 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-21**] 12:25 ------

2166-02-22 06:31:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Had EEG today per neuro. Results pending
   - MRI showed severe C5 stenosis from osteophyte v carcinomatous
   meningitis. Neuro rec LP when possible
   - Given lymes serology and concern for cardiac and CNS lymes added CTX
   2gIV daily
   - Switched to cipro for Acinetobacter as Unasyn can cause
   thrombocytopenia
   - Received 1 U pRBC and had appropriate bump in Hb from 9.1 to 10.1
   - Pt underwent CTA this afternoon which showed no PE, parabronchial
   cavitary lesion concerning for sqamous ca, lytic lesion of T6, and
   parahilar and periarotic LAD as well as large bilat pulm effusions
   - Pt underwent bronchoscopy. Samples were sent for Cx and cytology
   - Plan for daily sputum for cytology
   - PLTs dropped to 9 in the PM. Transfused 2U pooled PLT and increased
   steriods from 50mg to 100mg hydrocort IV q6hrs. PLT holding at 15-18
   - Spine [**Doctor First Name **] rec rigid collar for spinal stenosis. However, we held off
   as this was pushing on central line and increasing bleeding in the
   context of thrombocytopenia
   - Temp dropped to 91 PO. Added bearhugger
   - Spoke to son [**Name (NI) 322**]. [**Name2 (NI) **] was told Mr. [**Known lastname 4078**] may die tonight and
   advised him to come in. Code status was confirmed as full
   - Spiked to Tm 101 after bearhugger. Was also relatively [**Name2 (NI) 991**] to
   60/min. Cultures sent
   - Increased residuals from tube feeds overnight. Holding feeds. LFTs,
   LDH, amylase, lipase pending.
 EEG - At [**2166-2-21**] 10:30 AM
 BRONCHOSCOPY - At [**2166-2-21**] 02:30 PM
 SPUTUM CULTURE - At [**2166-2-21**] 03:00 PM
 BLOOD CULTURED - At [**2166-2-22**] 05:00 AM
 URINE CULTURE - At [**2166-2-22**] 05:15 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2166-2-19**] 08:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2166-2-21**] 06:10 AM
   Ceftriaxone - [**2166-2-21**] 04:00 PM
   Ciprofloxacin - [**2166-2-21**] 08:08 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Insulin - Humalog - [**2166-2-21**] 12:00 PM
   Hydralazine - [**2166-2-21**] 02:30 PM
   Carafate (Sucralfate) - [**2166-2-22**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-22**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 61 (33 - 64) bpm
   BP: 128/50(74) {108/45(64) - 204/85(130)} mmHg
   RR: 18 (9 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
    CVP: 11 (3 - 13)mmHg
   Total In:
                                                                  3,338 mL
                                                                    715 mL
   PO:
   TF:
                                                                    602 mL
                                                                    270 mL
   IVF:
                                                                  1,130 mL
                                                                    115 mL
   Blood products:
                                                                    736 mL
   Total out:
                                                                    815 mL
                                                                    175 mL
   Urine:
                                                                    815 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,523 mL
                                                                    540 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI: 81
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   Compliance: 55 cmH2O/mL
   SpO2: 94%
   ABG: 7.52/36/87.[**Numeric Identifier 274**]/28/5
   Ve: 13 L/min
   PaO2 / FiO2: 176
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Poor dentition, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: bilaterally)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   17 K/uL
   9.5 g/dL
   114 mg/dL
   0.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   28 mg/dL
   110 mEq/L
   143 mEq/L
   27.6 %
   7.9 K/uL
        [image002.jpg]
                             [**2166-2-20**]  04:58 PM
                             [**2166-2-20**]  11:50 PM
                             [**2166-2-21**]  05:29 AM
                             [**2166-2-21**]  05:54 AM
                             [**2166-2-21**]  04:59 PM
                             [**2166-2-21**]  05:11 PM
                             [**2166-2-21**]  08:12 PM
                             [**2166-2-21**]  10:46 PM
                             [**2166-2-22**]  04:52 AM
                             [**2166-2-22**]  05:01 AM
   WBC
   12.7
   6.3
   6.4
   7.3
   7.9
   Hct
   29.4
   26.6
   29.1
   28.7
   27.5
   27.6
   Plt
   51
   33
   9
   14
   18
   17
   Cr
   0.8
   0.8
   0.7
   0.9
   TCO2
   28
   29
   29
   30
   Glucose
   121
   113
   131
   114
   Other labs: PT / PTT / INR:13.4/33.8/1.2, CK / CKMB /
   Troponin-T:256/13/0.35, ALT / AST:28/39, Alk Phos / T Bili:146/0.8,
   Differential-Neuts:94.3 %, Band:0.0 %, Lymph:4.5 %, Mono:1.1 %, Eos:0.2
   %, D-dimer:[**2070**] ng/mL, Fibrinogen:634 mg/dL, Lactic Acid:1.4 mmol/L,
   Albumin:2.0 g/dL, LDH:222 IU/L, Ca++:8.4 mg/dL, Mg++:2.2 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization. Continues to be intubated with multiple
   complications including thrombocytopenia, difficult to control BPs,
   bradycardia, and paresis.
   .
   # Hypotension
 Likely Multifactorial.  Initially thought to be
   cardiogenic [**2-10**] inferior MI, responded to dopamine/norepinephrine.
   Some due to blood loss due to thrombocytopenia.  Lastly, having several
   prolonged vagal episodes with vagal stimuli with pauses resulting in
   hypotension, so may have some autonomic dysfunction.  Also, Cosyntropin
   stimulation test was
   abnormal suggesting component of adrenal insufficiency.
   - Appreciate Neurology and EP input regarding profound vagal episodes
   - Now off dopamine for pressure support.
   - Goal CVP 8-10. Stable now. Holding off on additional IVF boluses as
   very volume overloaded and UOP acceptable at about 30mL/hr
   - d/ced vancomycin as Staph epidermis in blood culture only from one
   bottle and likely contaminant
   - Changed to Unasyn [**2166-2-19**] from Zosyn  for pansensitive acinetobacter
   in sputum, day 1=[**2166-2-15**]
   - Changed again to cipro on [**2166-2-21**] as Pt developed thrombocytopenia
   which could be [**2-10**] Unasyn.
   - Continue empiric corticosteroids x 5 days. Begin steroid taper
   overnight 2/14-15/09
   - Transfuse for hematocrit < 25
   .
   # Respiratory failure
 Multifactorial due to impaired gas exchange
   from aspiration/lung mass, impaired chest wall mechanics given recent
   chest compressions, possibly underlying obstructive lung disease, and
   now bloody secretions.  Fluid overload less likely given absence of
   significant edema on x-rays.  Desated this morning, FiO2 increased to
   100%.
   - Attempt to wean FiO2, maintain sats >92%
   - Appreciate pulmonary recommendations, CTA chest negative for PE
   - Treat pneumonia as above with cipro
   - Wean vent as tolerated with daily trials of breathing
   - f/u AFB neg. x3, now off precautions.
   - Per pulmonary will do daily sputum for cytology
   - Bronchoscopy [**2166-2-21**] showed some blood and extensive mucous plugging.
   BAL sent for cytology and culture. Concern for lung ca
   - CT-A [**2166-2-21**] showed no PE but large cavitary mass extending into
   bronchus concerning for squamous ca with possible met to T6 as well as
   hilar and carinal LAD
   - Consider diuresis if unable to wean vent and BP remains stable given
   b/l pleural effusions
   .
   # Thrombocytopenia:  Plt since admission have dropped precipitously
   from 366 -> 9 yesterday.  There was initial concern for  HIT.  Heparin
   products d/c
d HIT Ab sent and negative.  DIC labs negative.  PPI also
   d/c
d as well as unasyn given risk of thrombocytopenia. Held off
   starting argatroban given risk of bleeding and no evidence of
   thrombotic events at this time. Heme following, appreciate their recs.
   Hydrocort inc. for ? ITP.
   - Appreciate Hematology recommendations
   - Holding heparin products
   - Transfuse platelets <10 or critical bleeding
   - Discontinued possible offending drugs including protonic (now on
   sucralfate), unasyn (now on cipro), heparin.
   .
   # UPPER GI BLEEDING: Gastroccult positive OG tube contents, perhaps
   related to insertion trauma however may be independent bleed. Currently
   stable.  Evaluated by GI who deferred EGD given Hct stable and no
   further bleeding noted.
   - Monitor serial hematocrits, changed PPi to [**Hospital1 **], transfuse for Hct <
   25 or drop  more than 5 points
   - Continue to have IV access x2
   - Keep type & screen up to date
   - Continue ASA and Plavix as needed to maintain stents
   - restarted tube feeds
   - pm Hct
   - Attempt to keep PLT > 10
   .
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   -Hold BB in the setting of recent hypotension
   -Bolus prn for BP and UOP.
   -off all pressors
   -ASA, Plavix, high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24, HbA1C 5.7
   .
   # Altered Mental Status/neuro deficits: After extubation Pt had ongoing
   poor orientation, not fully communicative, flaccid limbs, depressed
   reflexes.  Distribution with b/l LE and LUE>RUE without clear
   suggestions of anatomic lesion.  Toxic-metabolic workup thus far
   negative.  Also with recurrent autonomic instability with multiple
   vagal episodes leading to code blue. MRI brain without obvious lesions,
   MRI c-spine with spinal stenosis.
   - f/u neurology recs
   - Nsurg rec hard collar but was pressing on central line and causing
   bleeding given thrombocytopenia. Will hold off on hard collar for the
   moment
   - MRI with severe spinal stenosis at C5 [**2-10**] osteophytes v carcinomatous
   meningitis. Brain WNL
   - B12, folate, RPR, TSH, wnl here
   - Neuro recommends LP, however given severe thrombocytopenia will hold
   off.
   - f/u spine recs
   .
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, RV function appeared normal on TTE and filling pressures not
   elevated on right heart cath. TTE shows EF 45-50%.  CVP now in normal
   range.
   - 20L positive this admission. CVP holding now. Will hold off on
   additional fluids and titrate to UOP > 30mL/hr
   -no BB, ACEI in the setting of recent hypotension
   .
   # RHYTHM: Repeated vagal episodes resulting in loss of pulse.
   Appreciate EP and Neurology input regarding same.
   - Holding BB given hypotension, bradycardia.
   -telemetry monitoring
   - Repeat EKG this am
   .
   # Lung mass
 TB rule-out, fungal studies pending.  Appreciate
   pulmonary evaluation.
   - CT-A ready [**2166-2-21**] concerning for squamous lung ca with mets to T5
   and LNs
   - f/u cytology
   .
   FEN: OG tube, tube feeds currently on hold given inc. residuals.  [**Month (only) **].
   fre water flushes given Na normalized  Replete lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**], arterial line placed [**2-17**]
   PROPHYLAXIS:  pneumoboots, bowel regimen, sucralfate
   CODE: Full, discussed with family
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Fibersource HN (Full) - [**2166-2-22**] 03:15 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Arterial Line - [**2166-2-17**] 10:00 PM
   20 Gauge - [**2166-2-21**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Multiple complicated medical issues:
   1. Respiratory failure with worsening oxygenation - increased pleural
   effusions, bleeding, ? mucus plugging and R sided lung mass.
    Plan to optimize sedation, gentle diuresis (even though not volume
   overloaded by filling pressure, in the setting of low albumin and
   possible adverse renal handling of sodium and water, diuresis may
   improve urine output and decrease transudation of fluid into tissues.
   2. Thrombocytopenia. Agree most likely immune related and very unlikely
   HIT or destructive process. Steroids increased and holding potential
   offending agents as much as possible.
   3. Cord compression. Malignancy versus trauma/degenerative disease.
   4. Lung mass most definitely malignancy with probable metastasis to T6
   by CT.
   Have asked to discuss again with family that prognosis for recovery is
   poor and verify treatment goals.
   Total time spent on patient care: 30 minutes of critical care time.
   Additional comments:
   Ventilator, hemodynamics
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-22**] 11:04 ------

2166-02-23 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - After brief desats in am, was stable throughout most of day
   - Updated family on pt's status, family would like to see pt pull
   through but aware of severity of illness
   - CVPs were low (avg 5), but MAPS predominantly >60s
   - FiO2 weaned from 100% to 60%. Sedation still at 100 fentanyl/2 midaz
   - UOP ~25-50cc/hr, last hr 17cc
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2166-2-21**] 06:10 AM
   Ceftriaxone - [**2166-2-22**] 04:00 PM
   Ciprofloxacin - [**2166-2-22**] 08:00 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-23**] 06:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 35.6
C (96
   HR: 48 (48 - 104) bpm
   BP: 127/45(71) {91/40(53) - 162/65(93)} mmHg
   RR: 15 (13 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
    CVP: 4 (2 - 11)mmHg
   Total In:
                                                                  1,766 mL
                                                                    283 mL
   PO:
   TF:
                                                                    393 mL
                                                                    145 mL
   IVF:
                                                                    953 mL
                                                                    138 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    202 mL
   Urine:
                                                                  1,155 mL
                                                                    202 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    611 mL
                                                                     81 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 480 (480 - 480) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 96%
   ABG: 7.42/44/99.[**Numeric Identifier 8**]/28/3
   Ve: 8.3 L/min
   PaO2 / FiO2: 167
   Physical Examination
   General Appearance: intubated sedated
   Eyes / Conjunctiva: pupils asymmetric
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Breath Sounds rhonchorous. Air movement
   bilaterally.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Interval increase in edema, 2+ pitting edema of lower
   extremities bilaterally.
   Skin:  no lesions noted
   Neurologic: Sedated. Flaccid tone. Reflexes 0.
   Labs / Radiology
   10 K/uL
   8.7 g/dL
   145 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.7 mEq/L
   31 mg/dL
   109 mEq/L
   142 mEq/L
   25.8 %
   8.5 K/uL
        [image002.jpg]
                             [**2166-2-21**]  10:46 PM
                             [**2166-2-22**]  04:52 AM
                             [**2166-2-22**]  05:01 AM
                             [**2166-2-22**]  08:59 AM
                             [**2166-2-22**]  01:00 PM
                             [**2166-2-22**]  01:37 PM
                             [**2166-2-22**]  06:00 PM
                             [**2166-2-22**]  11:00 PM
                             [**2166-2-23**]  04:21 AM
                             [**2166-2-23**]  04:33 AM
   WBC
   7.9
   9.5
   8.5
   Hct
   27.5
   27.6
   26.5
   25.8
   Plt
   18
   17
   20
   10
   Cr
   0.9
   0.9
   TCO2
   30
   28
   30
   Glucose
   114
   138
   144
   139
   166
   145
   Other labs: PT / PTT / INR:14.4/29.3/1.3, CK / CKMB /
   Troponin-T:256/13/0.35, ALT / AST:30/43, Alk Phos / T Bili:144/0.7,
   Amylase / Lipase:128/85, Differential-Neuts:94.3 %, Band:0.0 %,
   Lymph:4.5 %, Mono:1.1 %, Eos:0.2 %, D-dimer:[**2070**] ng/mL, Fibrinogen:634
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.0 g/dL, LDH:230 IU/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization. Continues to be intubated with multiple
   complications including thrombocytopenia, labile BPs, bradycardia, and
   paresis.
   .
   # Hypotension
 Likely Multifactorial.  Initially thought to be
   cardiogenic [**2-10**] inferior MI, responded to dopamine/norepinephrine.
   Some due to blood loss due to thrombocytopenia.  Lastly, having several
   prolonged vagal episodes with vagal stimuli with pauses resulting in
   hypotension, so may have some autonomic dysfunction.  Also, Cosyntropin
   stimulation test was
   abnormal suggesting component of adrenal insufficiency.
   - Neurology and EP initially following for vagal episodes, not felt to
   be pacing candidate
   - Now off dopamine for pressure support.
   - Goal CVP 8-10. Stable now. Holding off on additional IVF boluses as
   very volume overloaded
   - d/ced vancomycin as Staph epidermis in blood culture only from one
   bottle and likely contaminant
   - Changed to Unasyn [**2166-2-19**] from Zosyn  for pansensitive acinetobacter
   in sputum, day 1=[**2166-2-15**]
   - Changed again to cipro on [**2166-2-21**] as Pt developed thrombocytopenia
   which could be [**2-10**] Unasyn, completes cipro today
   - Continue empiric corticosteroids x 5 days, however also on steroids
   for thrombocytopenia so will continue.
   - Transfuse for hematocrit < 25
   .
   # Respiratory failure
 Multifactorial due to impaired gas exchange
   from aspiration/lung mass, impaired chest wall mechanics given recent
   chest compressions, possibly underlying obstructive lung disease, and
   now bloody secretions.  Fluid overload less likely given absence of
   significant edema on x-rays.  Desated this morning, FiO2 increased to
   100%.
   - Attempt to wean FiO2, maintain sats >92%
   - Appreciate pulmonary recommendations, CTA chest negative for PE
   - Treat pneumonia as above with cipro, completes course today
   - Wean vent as tolerated with daily trials of breathing
   - f/u AFB neg. x3, now off precautions.
   - Per pulmonary will do daily sputum for cytology
   - Bronchoscopy [**2166-2-21**] showed some blood and extensive mucous plugging.
   BAL sent for cytology and culture. Concern for lung ca
   - CT-A [**2166-2-21**] showed no PE but large cavitary mass extending into
   bronchus concerning for squamous ca with possible met to T6 as well as
   hilar and carinal LAD
   - Continue diuresis given b/l pleural effusions
   - Discuss possible trach if unable to wean from vent
   .
   # Thrombocytopenia:  Plt since admission have dropped precipitously
   from 366 -> 9.  There was initial concern for  HIT.  Heparin products
   d/c
d HIT Ab sent and negative.  DIC labs negative.  PPI also d/c
d as
   well as unasyn given risk of thrombocytopenia. Held off starting
   argatroban given risk of bleeding and no evidence of thrombotic events
   at this time. Heme following, appreciate their recs.  Hydrocort inc.
   for ? ITP.
   - Appreciate Hematology recommendations
   - Holding heparin products
   - Transfuse platelets <10 or critical bleeding
   - Discontinued possible offending drugs including protonix (now on
   sucralfate), unasyn (now on cipro), heparin.
   .
   # UPPER GI BLEEDING: Gastroccult positive OG tube contents, perhaps
   related to insertion trauma however may be independent bleed. Currently
   stable.  Evaluated by GI who deferred EGD given Hct stable and no
   further bleeding noted.
   - Monitor serial hematocrits, changed PPi to [**Hospital1 **], transfuse for Hct <
   25 or drop  more than 5 points
   - Continue to have IV access x2
   - Keep type & screen up to date
   - Continue ASA and Plavix as needed to maintain stents
   - restarted tube feeds
   - pm Hct
   - Attempt to keep PLT > 10
   .
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   -Hold BB in the setting of recent hypotension
   -Bolus prn for BP and UOP.
   -off all pressors
   -ASA, Plavix, high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24, HbA1C 5.7
   .
   # Altered Mental Status/neuro deficits: After extubation Pt had ongoing
   poor orientation, not fully communicative, flaccid limbs, depressed
   reflexes.  Distribution with b/l LE and LUE>RUE without clear
   suggestions of anatomic lesion.  Toxic-metabolic workup thus far
   negative.  Also with recurrent autonomic instability with multiple
   vagal episodes leading to code blue. MRI brain without obvious lesions,
   MRI c-spine with spinal stenosis.
   - f/u neurology recs
   - Nsurg rec hard collar but was pressing on central line and causing
   bleeding given thrombocytopenia. Will hold off on hard collar for the
   moment
   - MRI with severe spinal stenosis at C5 [**2-10**] osteophytes v carcinomatous
   meningitis. Brain WNL
   - B12, folate, RPR, TSH, wnl here
   - Neuro recommends LP, however given severe thrombocytopenia will hold
   off.
   - f/u spine recs
   - Cont soft collar
   .
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, RV function appeared normal on TTE and filling pressures not
   elevated on right heart cath. TTE shows EF 45-50%.  CVP now in normal
   range.
   - 20L positive this admission. CVP holding now. Will hold off on
   additional fluids and titrate to UOP > 30mL/hr
   -no BB, ACEI in the setting of recent hypotension
   .
   # RHYTHM: Repeated vagal episodes resulting in loss of pulse.
   Appreciate EP and Neurology input regarding same.
   - Holding BB given hypotension, bradycardia.
   -telemetry monitoring
   .
   # Lung mass
 TB rule-out, fungal studies pending.  Appreciate
   pulmonary evaluation.
   - CT-A ready [**2166-2-21**] concerning for squamous lung ca with mets to T5
   and LNs
   - f/u cytology
   .
   FEN: OG tube, tube feeds,  Replete lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**], arterial line placed [**2-17**], attempt
   to obtain peripherals and consider d/c line
   PROPHYLAXIS:  pneumoboots, bowel regimen, sucralfate
   CODE: Full, discussed with family
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Arterial Line - [**2166-2-17**] 10:00 PM
   20 Gauge - [**2166-2-21**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Has made some progress with improved respiratory status and more stable
   hemodynamics.
   Will begin ventilator weaning efforts; Attempt diuresis today for
   mobilization of 3rd space volume.
   Completing course of antibiotics for pneumonia;
   Neuro status unchanged.
   Above discussed extensively with family member, next of [**Doctor First Name **] or health
   care proxy.
   Additional comments:
   Detailed discussion with sons yesterday. They understand and have
   expressed wishes to continue full efforts including CPR if needed.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-23**] 11:23 ------

2166-02-24 06:49:00 Physician Resident Progress Note
TITLE: CCU Resident Progress Note
   Chief Complaint: rca infarct
   24 Hour Events:
   - heme/onc follow up stated think low probability that HIT given degree
   of thrombocytopenia, ask to check daily hemolysis labs including LDH,
   haptoglobin, bili, retic count
   - consider 1 mg/kg/daily of prednisone instead of hydrocortisone to see
   if plts respond (have to weigh risk with infection), [**Hospital1 **] platelets
   - PICC consult placed, will be unable to try today, put in for
   survellience cxrs for hopefully PICC tomorrow (will need plts prior to
   PICC for goal plts > 30)
   - PM crit stable at 26, platelets improve to 15
   - no new spine recs
   - PICC nurse came by, apparently thinks that will need IR guided PICC
   placed for access, did not place any peripheral IVs
   - got 20 IV lasix x2 put out to it each time, CVP dropped afterwards to
   [**2-12**].
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2166-2-23**] 04:00 PM
   Ciprofloxacin - [**2166-2-23**] 08:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2166-2-23**] 06:00 PM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2166-2-24**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.4
C (95.8
   HR: 46 (42 - 58) bpm
   BP: 113/45(66) {105/43(63) - 157/61(93)} mmHg
   RR: 14 (7 - 16) insp/min
   SpO2: 93%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 80 kg (admission): 52 kg
   Height: 69 Inch
    CVP: 5 (2 - 8)mmHg
   Total In:
                                                                  2,094 mL
                                                                    345 mL
   PO:
   TF:
                                                                    905 mL
                                                                    136 mL
   IVF:
                                                                  1,079 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  1,907 mL
                                                                    765 mL
   Urine:
                                                                  1,907 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    187 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 508 (468 - 508) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 28 cmH2O
   SpO2: 93%
   ABG: 7.46/48/142/32/9
   Ve: 8 L/min
   PaO2 / FiO2: 142
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: 2+ upper extremity edema
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   12 K/uL
   8.7 g/dL
   153 mg/dL
   0.9 mg/dL
   32 mEq/L
   3.3 mEq/L
   31 mg/dL
   107 mEq/L
   143 mEq/L
   25.6 %
   7.4 K/uL
        [image002.jpg]
                             [**2166-2-22**]  06:00 PM
                             [**2166-2-22**]  11:00 PM
                             [**2166-2-23**]  04:21 AM
                             [**2166-2-23**]  04:33 AM
                             [**2166-2-23**]  12:53 PM
                             [**2166-2-23**]  02:07 PM
                             [**2166-2-23**]  06:00 PM
                             [**2166-2-24**]  02:57 AM
                             [**2166-2-24**]  03:08 AM
                             [**2166-2-24**]  06:42 AM
   WBC
   8.5
   7.9
   7.4
   Hct
   25.8
   26.1
   25.6
   Plt
   10
   15
   12
   Cr
   0.9
   1.0
   0.9
   TCO2
   30
   32
   32
   35
   Glucose
   139
   166
   145
   159
   213
   153
   Other labs: PT / PTT / INR:13.6/29.0/1.2, CK / CKMB /
   Troponin-T:256/13/0.35, ALT / AST:30/38, Alk Phos / T Bili:111/0.4,
   Amylase / Lipase:128/85, Differential-Neuts:94.3 %, Band:0.0 %,
   Lymph:4.5 %, Mono:1.1 %, Eos:0.2 %, D-dimer:[**2070**] ng/mL, Fibrinogen:634
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.2 g/dL, LDH:221 IU/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization. Continues to be intubated with multiple
   complications including thrombocytopenia, labile BPs, bradycardia, and
   paresis.
   .
   # Hypotension
 Likely Multifactorial.  Initially thought to be
   cardiogenic [**2-10**] inferior MI, responded to dopamine/norepinephrine.
   Some due to blood loss due to thrombocytopenia.  Lastly, having several
   prolonged vagal episodes with vagal stimuli with pauses resulting in
   hypotension, so may have some autonomic dysfunction.  Also, Cosyntropin
   stimulation test was
   abnormal suggesting component of adrenal insufficiency.
   - Neurology and EP initially following for vagal episodes, not felt to
   be pacing candidate
   - Now off dopamine for pressure support.
   - Goal CVP 8-10. Stable now. Holding off on additional IVF boluses as
   very volume overloaded
   - d/ced vancomycin as Staph epidermis in blood culture only from one
   bottle and likely contaminant
   - Completed abx for acinetobacter PNA
   - Continue stress-dose steroids, completed 5 days, however continued
   for thrombocytopenia.
   - Transfuse for hematocrit < 25
   .
   # Respiratory failure
 Multifactorial due to impaired gas exchange
   from aspiration/lung mass, impaired chest wall mechanics given recent
   chest compressions, possibly underlying obstructive lung disease, and
   now bloody secretions.  Fluid overload less likely given absence of
   significant edema on x-rays. Bronchoscopy [**2166-2-21**] showed some blood and
   extensive mucous plugging. BAL sent for cytology and culture. Concern
   for lung ca.  CTA [**2166-2-21**] showed no PE but large cavitary mass
   extending into bronchus concerning for squamous ca with possible met to
   T6 as well as hilar and carinal LAD.  Desated this morning, FiO2
   increased to 100%.
   - Attempt to wean FiO2, maintain sats >92%
   - Appreciate pulmonary recommendations, CTA chest negative for PE
   - Completed Abx course for PNA
   - Wean vent as tolerated with daily trials of breathing
   - Per pulmonary will do daily sputum for cytology
   - Continue diuresis given b/l pleural effusions, start lasix gtt today
   - Goal I/O -1L
   - Discuss trach with pulmonary given unable to wean from vent
   .
   # Thrombocytopenia:  Plt since admission have dropped precipitously
   from 366 -> 9.  There was initial concern for  HIT although suspect
   less likely given severity of thrombocytopenia.  Heparin products d/c
   HIT Ab sent and negativex1.  DIC labs negative.  PPI also d/c
d as well
   as unasyn given risk of thrombocytopenia. Held off starting argatroban
   given risk of bleeding and no evidence of thrombotic events at this
   time. Heme following, appreciate their reccomendation.  Patient on
   hydrocortisone for possible ITP. Yesterday heme recommending possibly
   switching to prednisone from hydrocort to see if there is any
   improvement in platelet count, held off in the setting of possible
   infection and will discuss this AM.
   - Consider switching to prednisone today
   - f/u heme recs
   - Holding heparin products
   - Transfuse platelets <10 or critical bleeding, will also need to
   transfuse prior to procedures
   - Discontinued possible offending drugs including protonix (now on
   sucralfate), unasyn (now on cipro), heparin.
   .
   # UPPER GI BLEEDING
 now resolved: Gastroccult positive OG tube
   contents, perhaps related to insertion trauma however may be
   independent bleed. Currently stable.  Evaluated by GI who deferred EGD
   given Hct stable and no further bleeding noted.
   - Monitor serial hematocrits, Hct < 25 or drop  more than 5 points
   - holding PPI in the setting of severe thrombocytopenia as above
   - Continue to have IV access x2
   - Keep type & screen up to date
   - Continue ASA and Plavix as needed to maintain stents
   - restarted tube feeds
   - Attempt to keep PLT > 10
   .
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   -Hold BB in the setting of recent hypotension
   -Bolus prn for BP and UOP.
   -off all pressors
   -ASA, Plavix, high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24, HbA1C 5.7
   .
   # Altered Mental Status/neuro deficits: After extubation Pt had ongoing
   poor orientation, not fully communicative, flaccid limbs, depressed
   reflexes.  Distribution with b/l LE and LUE>RUE without clear
   suggestions of anatomic lesion.  Toxic-metabolic workup thus far
   negative.  Also with recurrent autonomic instability with multiple
   vagal episodes leading to code blue. MRI brain without obvious lesions,
   MRI c-spine with spinal stenosis.
   - f/u neurology recs
   - Nsurg rec hard collar but was pressing on central line and causing
   bleeding given thrombocytopenia. Will hold off on hard collar for the
   moment
   - MRI with severe spinal stenosis at C5 [**2-10**] osteophytes v carcinomatous
   meningitis. Brain WNL
   - B12, folate, RPR, TSH, wnl here
   - Neuro recommends LP, however given severe thrombocytopenia will hold
   off.
   - spine recommended follow up for possible surgical intervention if
   patient mental stasis improves, no new recs left yesterday
   - Cont hard collar
   .
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, RV function appeared normal on TTE and filling pressures not
   elevated on right heart cath. TTE shows EF 45-50%.  CVP now in normal
   range.
   - 20L positive this admission. CVP holding now. Will hold off on
   additional fluids and titrate to UOP > 30mL/hr
   -no BB, ACEI in the setting of recent hypotension
   - lasix gtt
   .
   # RHYTHM: Repeated vagal episodes resulting in loss of pulse.
   Appreciate EP and Neurology input regarding same.
   - Holding BB given hypotension, bradycardia.
   -telemetry monitoring
   .
   # Lung mass
 TB rule-out, fungal studies pending most likely etiology
   is malignant especially given lytic lesions seen on CT.  Pulmonary
   following.
   - CT-A ready [**2166-2-21**] concerning for squamous lung ca with mets to T5
   and LNs
   - cytology is not pending on [**Last Name (LF) 4122**], [**First Name3 (LF) 116**] need to discuss with pulmonary
   that definitely sent sample for eval from bronchoscopy
   .
   FEN: OG tube, tube feeds started, patient with decreased residuals,
   Replete lytes prn.
   ACCESS: LIJ removed, RIJ placed [**2-13**], arterial line placed [**2-17**], PICC
   consult placed however unlikely to happen before Tuesday as will need
   IR guided PICC
   PROPHYLAXIS:  pneumoboots, bowel regimen, sucralfate
   CODE: Full, discussed with family
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Arterial Line - [**2166-2-17**] 10:00 PM
   20 Gauge - [**2166-2-21**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Medical Decision Making
   Worsening hypoxia on pressure support. Unlikely to have successful
   wean. Will continue diuresis. To complete course of treatment for
   acinetobacter pneumonia today. Platelet count remains dramatically low
   without [**Last Name (un) 4133**] bleeding.  No platelet transfusion today.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2166-2-24**] 18:04 ------

2166-02-25 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Sputum cytology preliminary read is atypical squamous cells
   concerning for malignancy
   - Continue sputum cytology for now until definitive diagnosis made
   - Continued daily hemolysis labs per heme
   - Increase steroids to solumedrol 80mg IV daily
   - Transfused PLT to 60 for PICC line placement with 2U pooled PLTs
   - PLT stabilized around 44 with increased steroid dose
   - Continued goal I/O -1L daily
   - Goal CVP 10
   - Started Lasix drip with excellent effect. Initially on 10mg/hr, but
   lowered rate to 5mg/hr
   - Repleted K PRN for lasix drip
   - DCed cipro as finished course for Acinetobacter
   - Continue ceftriaxone for lyme disease
   - Placed PICC line, but was sited in the neck so pulled back to
   mid-line
   - Will place IR guided PICC tomorrow
   - Discuss trach with pulmonary and family
   - Plan for family meeting as soon as possible. Son said he can come
   Wednesday
   - Weaning FiO2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2166-2-24**] 08:00 AM
   Ceftriaxone - [**2166-2-24**] 04:00 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Furosemide (Lasix) - 7 mg/hour
   Other ICU medications:
   Other medications:
   Solumedrol 80mg IV q24h
   ASA 325
   RISS
   Lipitor
   Atrovent/Albuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-25**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 34.4
C (94
   HR: 46 (43 - 92) bpm
   BP: 106/38(59) {106/38(59) - 160/59(90)} mmHg
   RR: 28 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 80 kg (admission): 52 kg
   Height: 69 Inch
    CVP: 7 (2 - 12)mmHg
   Total In:
                                                                  2,601 mL
                                                                    491 mL
   PO:
   TF:
                                                                  1,088 mL
                                                                    242 mL
   IVF:
                                                                    863 mL
                                                                    189 mL
   Blood products:
                                                                    470 mL
   Total out:
                                                                  4,230 mL
                                                                  1,300 mL
   Urine:
                                                                  4,230 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,629 mL
                                                                   -809 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 27 cmH2O
   Compliance: 32.4 cmH2O/mL
   SpO2: 97%
   ABG: 7.53/44/108/38/13
   Ve: 7.9 L/min
   PaO2 / FiO2: 216
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: 2+ upper extremity edema
   Skin:  Warm, with bairhugger
   Neurologic: Anisocoria (L>R), vertical misalignment <R higher than L).
   Unable to follow commands.
   Labs / Radiology
   39 K/uL
   8.9 g/dL
   121 mg/dL
   1.0 mg/dL
   38 mEq/L
   3.2 mEq/L
   32 mg/dL
   105 mEq/L
   147 mEq/L
   25.2 %
   12.2 K/uL
        [image002.jpg]
                             [**2166-2-23**]  06:00 PM
                             [**2166-2-24**]  02:57 AM
                             [**2166-2-24**]  03:08 AM
                             [**2166-2-24**]  06:42 AM
                             [**2166-2-24**]  12:24 PM
                             [**2166-2-24**]  05:17 PM
                             [**2166-2-24**]  08:08 PM
                             [**2166-2-24**]  11:20 PM
                             [**2166-2-24**]  11:27 PM
                             [**2166-2-25**]  05:26 AM
   WBC
   7.4
   10.9
   11.0
   12.4
   12.2
   Hct
   25.6
   24.0
   25.2
   25.5
   25.2
   Plt
   12
   62
   45
   44
   53
   39
   Cr
   0.9
   1.0
   1.0
   1.0
   TCO2
   32
   35
   38
   Glucose
   [**Telephone/Fax (3) 4145**]22
   121
   Other labs: PT / PTT / INR:13.3/27.4/1.1, CK / CKMB /
   Troponin-T:256/13/0.35, ALT / AST:30/38, Alk Phos / T Bili:111/0.5,
   Amylase / Lipase:128/85, Differential-Neuts:94.3 %, Band:0.0 %,
   Lymph:4.5 %, Mono:1.1 %, Eos:0.2 %, D-dimer:[**2070**] ng/mL, Fibrinogen:634
   mg/dL, Lactic Acid:1.4 mmol/L, Albumin:2.5 g/dL, LDH:253 IU/L, Ca++:8.1
   mg/dL, Mg++:2.1 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   80M with limited known PMH presented from OSH with inferior STEMI, s/p
   RCA revascularization. Continues to be intubated with multiple
   complications including thrombocytopenia, labile BPs, bradycardia, and
   paresis.
   .
   .
   # Respiratory failure
 Remains tachypneic with respiratory alkalosis.
   Desatted but able to be weaned back down to FiO2 of 50%. CT was neg for
   PE. Appreciate pulmonary input. Possibly related to underlying pulm
   process, such as suspected malignancy.
   - Attempt to wean FiO2, maintain sats >92%
   - Appreciate pulmonary recommendations, CTA chest negative for PE
   - Completed Abx course for PNA
   - Wean vent as tolerated with daily trials of breathing
   - Continue diuresis given b/l pleural effusions, start lasix gtt with
   excellent diuresis
   - Goal I/O -1L
   - Discuss trach with pulmonary and family given unable to wean from
   vent
   .
   # Thrombocytopenia:  Plt since admission have dropped precipitously
   from 366 -> 9.  There was initial concern for  HIT although suspect
   less likely given severity of thrombocytopenia.  Heparin products d/c
   HIT Ab sent and negativex1 with a repeat pending.  DIC labs negative.
   PPI also d/c
d as well as unasyn given risk of thrombocytopenia. Held
   off starting argatroban given risk of bleeding and no evidence of
   thrombotic events at this time. Heme following, appreciate their
   recommendation.  Patient initially on hydrocortisone for possible ITP.
   Heme recommended switching to prednisone or equivalent
   - Swithed to solumedrol 80mg IV daily with stabilization of PLTs
   - f/u heme recs
   - Holding heparin products
   - Transfuse platelets <10 or critical bleeding, will also need to
   transfuse prior to procedures
   - Discontinued possible offending drugs including protonix (now on
   sucralfate), unasyn (now on cipro), heparin.
   - Resending HIT (anti PF4 antibodies) per heme
   .
   # UPPER GI BLEEDING
 now resolved: Gastroccult positive OG tube
   contents, perhaps related to insertion trauma however may be
   independent bleed. Currently stable.  Evaluated by GI who deferred EGD
   given Hct stable and no further bleeding noted.
   - Monitor serial hematocrits, Hct < 25 or drop  more than 5 points
   - holding PPI in the setting of severe thrombocytopenia as above
   - Continue to have IV access x2
   - Keep type & screen up to date
   - Continue ASA and Plavix as needed to maintain stents
   - restarted tube feeds
   - Attempt to keep PLT > 10
   - Continue sucralfate
   .
   # CORONARIES:  s/p IMI, with total occlusion of RCA, s/p BMS.
   -Hold BB in the setting of recent hypotension
   -Holding additional boluses as 20L+
   -off all pressors, can restart PRN
   -Continue ASA, Plavix, high dose statin
   -Lipid panel shows LDL below goal (39), HDL only 24, HbA1C 5.7
   .
   # AMS / CANAL STENOSIS: Overall, picture is concerning for anatomic
   spinal lesion, appreciate neurology following. After extubation Pt had
   ongoing poor orientation, not fully communicative, flaccid limbs,
   depressed reflexes.  Distribution with b/l LE and LUE>RUE without clear
   suggestions of anatomic lesion.  Toxic-metabolic workup thus far
   negative.  Also with recurrent autonomic instability with multiple
   vagal episodes leading to code blue. MRI brain without obvious lesions,
   MRI c-spine with spinal stenosis.
   -  Urgent Head Scan this am to assess for ICH.
   - Nsurg rec hard collar but was pressing on central line and causing
   bleeding given thrombocytopenia. Will hold off on hard collar for the
   moment
   - MRI with severe spinal stenosis at C5 [**2-10**] osteophytes v carcinomatous
   meningitis. Brain WNL
   - B12, folate, RPR, TSH, wnl here
   - Neuro recommends LP, however given severe thrombocytopenia will hold
   off.
   - spine recommended follow up for possible surgical intervention if
   patient mental stasis improves, no new recs left yesterday
   - Cont hard collar
   .
   # PUMP:  Initial concern for RV dysfunction given ischemic territory,
   however, RV function appeared normal on TTE and filling pressures not
   elevated on right heart cath. TTE shows EF 45-50%.  CVP now in normal
   range.
   - 20L positive this admission. CVP holding now. Will hold off on
   additional fluids and titrate to UOP > 30mL/hr
   -no BB, ACEI in the setting of recent hypotension
   - lasix gtt ongoing with good diuresis
   .
   # RHYTHM: Repeated vagal episodes resulting in loss of pulse.
   Appreciate EP and Neurology input regarding same.
   - Holding BB given hypotension, bradycardia.
   -telemetry monitoring
   .
   # Lung mass
 TB rule-out, fungal studies pending most likely etiology
   is malignant especially given lytic lesions seen on CT.  Pulmonary
   following.
   - CT-A ready [**2166-2-21**] concerning for squamous lung ca with mets to T5
   and LNs
   - cytology preliminary read from BAL with atypical squamous cells
   concerning for malignancy
   - Continue daily sputum cytology for now until definitive diagnosis
   # Hypotension
 Improved. Likely Multifactorial.  Initially thought to
   be cardiogenic [**2-10**] inferior MI, responded to dopamine/norepinephrine.
   Some due to blood loss due to thrombocytopenia.  Lastly, having several
   prolonged vagal episodes with vagal stimuli with pauses resulting in
   hypotension, so may have some autonomic dysfunction.  Also, Cosyntropin
   stimulation test was abnormal in that rise was <9. suggesting component
   of adrenal insufficiency.
   - Neurology and EP initially following for vagal episodes, not felt to
   be pacing candidate
   - Now off dopamine for pressure support.
   - Goal CVP 8-10. Stable now. Holding off on additional IVF boluses as
   very volume overloaded
   - d/ced vancomycin as Staph epidermis in blood culture only from one
   bottle and likely contaminant
   - Completed abx for acinetobacter PNA
   - Continue stress-dose steroids, completed 5 days, however continued
   for thrombocytopenia.
   - Transfuse for hematocrit < 25
   .
   FEN: OG tube, tube feeds started, patient with decreased residuals,
   Replete lytes prn.
            Will increase free water boluses given Hypernatremia.
   ACCESS: LIJ removed, RIJ placed [**2-13**], arterial line placed [**2-17**], PICC
   consult placed however unlikely to happen before Tuesday as will need
   IR guided PICC
   PROPHYLAXIS:  pneumoboots, bowel regimen, sucralfate
   CODE: Full, discussed with family
   DISPO: CCU for now, contact, [**Name (NI) **] [**Name (NI) 322**] [**Telephone/Fax (1) 3872**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2166-2-13**] 01:00 PM
   Arterial Line - [**2166-2-17**] 10:00 PM
   PICC Line - [**2166-2-24**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I would add the following remarks:
   History
   nothing to add
   Physical Examination
   nothing to add
   Medical Decision Making
   nothing to add
   after discussion with family, patient was made CMO
   total duration of time spent in care: 40 minutes-critical care due to
   intubation and critical condition
   ------ Protected Section Addendum Entered By:[**Name (NI) 3213**] [**Name (NI) 862**]  on:[**2166-2-25**]
   17:14 ------